2197-08-20 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Central line placed (right IJ) w/ ultrasound
   - Gave 2 un FFP prior to line placement to improve INR.  However, no
   more blood products or interventions should be undertaken without prior
   discussion with Dr. [**Last Name (STitle) 356**]
   - Started vanc and Zosyn given rising WBC as well as recent c-section
   - Failed [**Last Name (un) 357**] trial this am with sedation already being off x 2hrs
   Allergies:
   Last dose of Antibiotics:
   Vanc and Zosyn
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-20**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR 91 (87-93)
   BP 122/80 (110-140s/70-80s)
   Tc and m 97.9
                  Total In:
                                                                   1600 mL
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    260 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.43/25/216/15/-5
   Physical Examination
   Gen: arousable but increased sluggishness compared to prior exam
   Eyes: PERRL, able to track finger
   Reflexes: unable to obtain patellar DTRs
   [**Name (NI) 358**] / Radiology
   150 K/uL
   9.1 g/dL
   136 mg/dL
   1.5 mg/dL
   15 mEq/L
   3.2 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   27.6 %
   25.7 K/uL
        [image002.jpg]
                             [**2197-8-19**]  02:47 PM
                             [**2197-8-19**]  03:13 PM
                             [**2197-8-19**]  06:11 PM
                             [**2197-8-19**]  07:04 PM
                             [**2197-8-19**]  10:30 PM
                             [**2197-8-20**]  12:00 AM
                             [**2197-8-20**]  05:45 AM
                             [**2197-8-20**]  05:53 AM
   WBC
   16.1
   21.5
   26.6
   25.7
   Hct
   29.1
   28.2
   25.7
   27.6
   Plt
   161
   182
   145
   150
   Cr
   1.0
   1.1
   1.3
   1.5
   TCO2
   10
   11
   13
   13
   17
   Glucose
   106
   93
   93
   119
   136
   Other [**Year (4 digits) **]: PT / PTT / INR:30.7/38.4/3.2, ALT / AST:2127/2518, Alk Phos
   / T Bili:194/1.9, Amylase / Lipase:80/23, Differential-Neuts:86.5 %,
   Lymph:10.2 %, Mono:2.9 %, Eos:0.1 %, Lactic Acid:6.0 mmol/L,
   Albumin:2.4 g/dL, LDH:[**2214**] IU/L, Ca++:8.0 mg/dL, Mg++:9.6 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   22 year old woman with fulminant hepatic failure following
   acetaminophen overdose as suicide attempt. Also s/p emergent Caesarian
   section this morning for pre-ecclampsia.
   .
   Plan:
   ## Acetaminophen overdose, likely fulminant hepatic failure;
   significant likelihood that she will need liver transplant for survival
   - hepatology consult
   - transplant surgery consult
   - transplant SW
   - ethics consult for HIV testing (for transplant evaluation)
   - hepatitis serologies to be run in AM
   - serial neuro exams; neurosurgery consult for intracranial pressure
   monitoring if signs of neurologic changes
   - head CT now to check for evidence of elevated intracranial pressure
   - N-acetylcysteine at 17 mg/kg continuous infusion
   - toxicology aware of patient; recommended checking daily acetaminophen
   levels
   - q6h INR, electrolyes, CBC
   - q12h LFTs
   - q2h fingersticks.  BGs have been wnl
   - RUQ ultrasound to assess portal vein patency/anatomy
   .
   ## Metabolic acidosis: likely secondary to lactic acidosis from acute
   hepatic failure
   - hyperventillation and bicarbonate drip for correction
   - acetazolamide if evidence of increased intracranial pressure
   - q6h ABGs
   .
   ## s/p C-section complicated by likely pre-ecclampsia
   - magnesium sulfate drip to keep level 4.8 to 8.4 per OB curbside.
   Currently at 9.6; will hold magnesium for now
   - Reflexes have been very difficult to test, even prior to starting mag
   .
   ## Hypothermia: possibly due to C-section
   - check blood cultures, urinalysis, urine culture
   - warming blankets
   .
   ## Depression:
   - psychiatry eval when medically stabilized
   .
   ## FEN: NPO; trend lytes as above
   ## Access: PIV x2; A-line placed
   ## Communication: mother [**Name (NI) 359**] ([**Telephone/Fax (1) 360**]), [**Name2 (NI) 361**]er [**Name (NI) 362**]
   ([**Telephone/Fax (1) 363**]), brother [**Name (NI) 364**] ([**Telephone/Fax (1) 365**])
   ## Code: Full
   ## Dispo: ICU; critically ill
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-08-21 06:36:00 Physician Resident Progress Note
24 Hour Events:
   Mg 9.6 -> 9.6->8.6
8.1. Mg sulfate held.
   RUQ U/S showed:
   INR 7.3
6.5. No FFP given, per hepatology recs, so that coags
   can be followed.
   HIV negative.
   Listed on transplant list at 3pm. Hepatology recs: No fluid. If needs
   blood call them to confirm. No extra volume if possible. Were
   contemplating transplant and there was a liver but then INR and LFTs
   began to trend down at 1am.
   Cr 1.5->2.2- >3.1
3.7. Cr elevated and climbing. UOP to 0mL/hour
   between 3pm and 3am while SBP in 90s. Then UOP climbed to 20-44mL/hr.
   Renal consult called: will likely need CVVH but can't get line with INr
   so high. U-lytes c/w pre-renal (FeNa = 1.1).
   Subjective:
   Feeling ok, but has new, diffuse, throbbing abdominal pain that
   currently 5/10 intensity. She does not think it feels like uterine
   cramps.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2197-8-21**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax = 98.9
   Tcur = 98.7
   HR = 97 (86-101)
   BP = 132/78 (115/79-149/82)
   O2 sat = 100% (98-100%)
    Mixed Venous O2% Sat: 80 - 80
   CVP = 9 ([**3-5**])
   Total In:
                                                                      4925
                                                                      1491
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                       708
                                                                       144
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   CPAP + PS     FiO2 = 0.40     Tv=407     RR = 22     PS = 5     PEEP =
   5      RISP = 44 (from 89 yesterday)
   ABG: pO2 / pCO2 / pH
   [1][**2197-8-21**] 12:20PM
                                     ART
                                    170*
                                     38
                                    7.42
   [2][**2197-8-21**] 06:04AM
                                     ART
                                    184*
                                     34*
                                    7.39
   [3][**2197-8-21**] 03:09AM
                                     ART
                                    166*
                                     33*
                                    7.37
   [4][**2197-8-21**] 12:06AM
                                     ART
                                    166*
                                     30*
                                    7.34*
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , Rhonchorous: slight inspiratory
   rhonchi)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: Mild,
   diffuse tenderness, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, No(t) Paralyzed, Tone: Normal,
   2+ patellar relexes bilaterally
   Labs / Radiology
   108 K/uL
   7.6 g/dL
   80 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   23 mg/dL
   92 mEq/L
   136 mEq/L
   22.1 %
   28.6 K/uL
        [image002.jpg]
   Creat trend: 4.1
   Anion gap trend: 28
                             [**2197-8-20**]  05:40 PM
                             [**2197-8-20**]  09:22 PM
                             [**2197-8-20**]  09:28 PM
                             [**2197-8-21**]  12:06 AM
                             [**2197-8-21**]  03:00 AM
                             [**2197-8-21**]  03:09 AM
                             [**2197-8-21**]  06:00 AM
                             [**2197-8-21**]  06:04 AM
                             [**2197-8-21**]  11:51 AM
                             [**2197-8-21**]  12:20 PM
   WBC
   31.8
   28.2
   29.4
   27.5
   28.6
   Hct
   26.3
   24.9
   24.1
   23.4
   22.1
   Plt
   110
   111
   104
   111
   108
   Cr
   3.1
   3.2
   3.4
   3.7
   TCO2
   16
   17
   17
   20
   21
   25
   Glucose
   90
   98
   99
   101
   79
   101
   80
   Other labs:
   PT / PTT / INR:
   [5][**2197-8-21**] 11:51AM
   [6][**2197-8-21**] 11:51AM
                                    55.6*
                                    61.7*
                                   6.5*[1]
   [7][**2197-8-21**] 06:00AM
   [8][**2197-8-21**] 06:00AM
                                  55.8*[2]
                                    60.7*
                                    6.5*
   [9][**2197-8-21**] 03:00AM
   [10][**2197-8-21**] 03:00AM
                                  57.9*[3]
                                    62.7*
                                    6.8*
   [11][**2197-8-21**] 12:06AM
   [12][**2197-8-21**] 12:06AM
                                  61.4*[4]
                                    62.3*
                                    7.3*
   ALT / AST/LDH/Alk phos/T bili
   [13][**2197-8-21**] 06:00AM
                                  7510*[1]
                                  [**Numeric Identifier 375**]*[1]
                                  9280*[1]
   3.4*
   [14][**2197-8-21**] 03:00AM
                                  8370*[1]
                                  [**Numeric Identifier 373**]*[1]
                                  9920*[1]
   347*
   3.3*
   Source: Line-arterial
   [15][**2197-8-21**] 12:06AM
                                  7780*[1]
                                  [**Numeric Identifier 376**]*[1]
                                  9500*[1]
   3.1*
   Amylase / Lipase:80/23
   Fibrinogen:119 mg/dL from [**8-20**] at 5:24pm
   Lactase:
   [16][**2197-8-21**] 12:20PM
                                   5.8*[1]
   [17][**2197-8-21**] 06:04AM
                                   6.4*[1]
   [18][**2197-8-21**] 03:09AM
                                   7.5*[1]
   [19][**2197-8-21**] 12:06AM
                                   8.3*[1]
   [20][**2197-8-20**] 09:28PM
                                   9.5*[1]
   [21][**2197-8-20**] 05:40PM
                                   7.9*[1]
   [22][**2197-8-20**] 11:57AM
                                   5.7*[1]
   LDH:9280 IU/L
   Alb/Ca/Phos/Mg:
   [23][**2197-8-21**] 06:00AM
   2.1*
   8.4
                                    7.9*
                                   8.1*[1]
   [24][**2197-8-21**] 03:00AM
   2.0*
   8.1*
                                    8.3*
                                   9.1*[2]
   Source: Line-arterial
   [25][**2197-8-21**] 12:06AM
   2.0*
   7.9*
                                    8.3*
                                   7.7*[3]
   Free Ca: 1.02
1.03
   Vanco: 29.8
   Acetaminophen:
   [26][**2197-8-21**] 11:51AM
                                    26.6*
   [27][**2197-8-20**] 05:24PM
                                    38.7*
   [28][**2197-8-19**] 02:47PM
                                  175.7*[2]
   Urine chemistry:
   URINE CHEMISTRY
                                    Hours
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
   [29][**2197-8-20**] 10:22AM
                                   RANDOM
   [30][**2197-8-20**] 10:03AM
                                   RANDOM
                                     81
                                     78
                                     51
                                     57
                                LESS THAN [1]
   OTHER URINE CHEMISTRY
                                   Osmolal
   [31][**2197-8-20**] 10:03AM
                                     316
   U/A:
   [32][**2197-8-20**] 10:03AM
                                     LG
                                     NEG
                                     100
                                     NEG
                                     10
                                     NEG
                                     NEG
                                     5.5
                                     MOD
   Source: Catheter
     MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [33][**2197-8-20**] 10:03AM
                                   >1000*
                                    147*
                                     MOD
                                    NONE
                                      3
   Source: Catheter
   URINE CASTS
                                   CastHy
   [34][**2197-8-19**] 06:42PM
                                     8*
   Micro:
[**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS VCA-IgG AB (Final [**2197-8-21**]):    POSITIVE BY EIA.
   [**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS EBNA IgG AB (Final [**2197-8-21**]):    POSITIVE BY EIA.
   [**Doctor Last Name 380**]-[**Doctor Last Name **] VIRUS VCA-IgM AB (Final [**2197-8-21**]):  NEGATIVE <1:10 BY IFA.
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION.
[**2197-8-20**] 8:47 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2197-8-20**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL FLORA.
[**2197-8-19**] 6:42 pm URINE      Source: Catheter.
   URINE CULTURE (Final [**2197-8-21**]):    NO GROWTH.
   Imaging:
   CXR
   As compared to the previous radiograph, the position of the monitoring
   and
   support devices is unchanged. Also unchanged are the relatively low
   lung
   volumes and the borderline size of the cardiac silhouette. On today's
   examination, there is minimal retrocardiac atelectasis. Otherwise, no
   focal
   parenchymal opacity suggestive of pneumonia are seen. No sign
   suggestive of
   pulmonary edema.
   RUQ ultrasound
   FINDINGS: This examination was initiated at 7:09 p.m. [**2197-8-19**],
   at
   which time several images were obtained by the technologist. The
   examination
   was interrupted at that time as the patient needed to undergo urgent
   procedure
   in the intensive care unit. After multiple attempts to complete the
   examination were unsuccessful due to the patient's urgent clinical
   condition,
   the examination was completed by the technologist on [**2197-8-20**],
   at 10:10
   a.m. Subsequently, the attending radiologist returned to the bedside at
   1:17
   p.m. [**2197-8-20**]. This clip includes images from all three
   acquisitions.
   The hepatic echotexture appears grossly within normal limits. There is
   no
   intra- or extra-hepatic biliary ductal dilation. The common hepatic
   duct
   measures 5 mm.
   Initial images obtained [**2195-8-19**], show apparent antegrade flow
   in the
   main portal vein with a velocity of approximately 10 cm/sec. However,
   there
   is reversal of flow in the right anterior portal vein and no definite
   flow
   detectable in the right posterior portal vein. The left portal vein is
   patent
   with antegrade flow. Subsequent images obtained on [**2197-8-20**],
   again
   show reversal of flow in the right anterior portal vein and antegrade
   (hepatopetal) flow in the left portal vein. However, despite numerous
   attempts both by the senior technologist and the attending radiologist
   at the
   bedside, no measurable flow could be detected in the extra-hepatic main
   portal
   vein. The main hepatic artery is patent. The right, left, and middle
   hepatic
   veins are patent. Flow within the splenic vein is hepatofugal. The
   gallbladder is markedly edematous and nondistended. Imaged portions of
   the
   pancreas appear within normal limits, although the pancreatic tail is
   obscured
   by overlying bowel gas. The spleen measures 14 cm. There is no ascites.
   IMPRESSION:
   1. Abnormal flow within the portal system, including reversal of flow
   in the
   right anterior portal vein, no demonstrable flow in the right posterior
   portal
   vein, hepatopetal flow in the left portal vein. While on initial images
   obtained on [**2197-8-19**], there is some apparent antegrade flow in
   the
   extra-hepatic portal vein, no demonstrable flow is present on [**8-20**], [**2196**],
   indicating either thrombosis or extremely slow flow (undetectable).
   These
   results were discussed with Dr. [**Last Name (STitle) 356**] at the bedside. As the patient
   cannot
   receive iodinated contrast due to acute renal failure, non-contrast MRI
   may be
   helpful for further assessment of the extra- hepatic portal vein.
   2. Patent hepatic veins and hepatic arteries. The portal venous flow
   abnormalities reported could relate to hepatic sinusoidal occlusion in
   the
   setting of acetaminophen hepatotoxicity.
   3. Splenomegaly, compatible with portal hypertension.
   4. Gallbladder edema consistent with liver disease.
   Assessment and Plan
   22 year old woman with fulminant hepatic failure following
   acetaminophen overdose as suicide attempt. Also s/p emergent Caesarian
   section this morning for pre-ecclampsia.
   Plan:
   #Acetaminophen overdose: Leading to hepatic failure with dramatically
   elevated liver enzymes (peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am).
   INR peaked at 8.1 at 9:22pm. Now values are improving thus she may
   likely be able to avoid transplantation.
   - f/u hepatology recs
   - f/u transplant surgery recs
   - f/u hepatitis serologies
   - continue serial neuro exams. Currently mental status is good no HA;
   no sign of elevated ICP. Acetazolamide if evidence of ICP develops.
   - Continue N-acetylcysteine at 17 mg/kg continuous infusion until AST
   and ALT drop below 1000.
   - Continue following daily acetaminophen levels.
   - Continue following q6h INR, PT, PTT, electrolyes, CBC.
   - Vitamin K 2mg daily per hepatology rec: will not obscure degree of
   liver function because liver will only be able to use vit K to make
   clotting factors to the degree to which it
s functional.
   - Continue following q12h LFTs
   - Continue q2h fingersticks.  BGs have been wnl.
   - Repeat RUQ ultrasound to assess portal vein patency/anatomy.
   # Respiratory failure: Signs of improvement include RISP of 44,
   favorable ABGs, and alert mental status.
   - Trial of extubation today.
   # ARF: Creatinine still rising. Urine ouput was 0 for 12 hours, but is
   much improved. Likely a component of ATN from Tylenol, however urine
   lytes from yesterday midday are consistent with pre-renal etiology. U
   osm = 316.
   -          Continue to follow Cr q6hr.
   -          f/u renal recs.
   -          Continue to follow UOP.
   # Abdominal pain: New, pulsitile, diffuse abdominal pain could
   represent expected post-op pain v. hepatic failure v. developing
   infection such as chorioamnionitis. However, infection seems less
   likely given that pt is afebrile and mental status is improving, she is
   normotensive, WBC count is trending down, and she has no vaginal
   bleeding or exudate from wound.
   -          Morphine 2mg q4h prn for pain.
   -          Continue to monitor symptom and physical exam, as well as
   vitals and WBC.
   -          Continue vancomycin and zosyn until labs stabilize and cxs
   come back negative. However, hold vanc for now as level is
   supertherapeutic.
   -          Repeat vanc trough in AM.
   # Leukocytosis: Improving; peaked at 34.9 at 5:24pm. Now 28.6. Pt is
   afebrile, so this could represent an inflammatory reaction in the
   setting of hepatic failure. CXR shows atelectasis, but no sign of
   pneumonia. Phanensteil incision looks uninfected, as above. Breasts
   appear normal. U/A from [**8-20**] showed 147 WBC. Urine cx from [**8-19**] was
   negative, but an infection could have developed since then.
   -          Continue to follow WBC q6h.
   -          f/u cultures.
   -          Continue vanc and zosyn until labs stabilize and cultures
   come back negative. However, hold vanc for now as level is
   supertherapeutic.
   -          Repeat vanc trough in AM.
   # Metabolic acidosis: Likely secondary to lactic acidosis from acute
   hepatic failure. ABGs show improvement.
   - Continue q6h ABGs.
   # Positive U/A: However urine cx [**8-19**] was negative. Urine cx from [**8-20**]
   is pending.
   -          f/u urine cx.
   -          Broad spectrum antibiotics (vanco and zosyn) will cover UTI.
   # s/p C-section complicated by likely pre-ecclampsia: Phanensteil
   incision is clean, without exudate or erythema. No sign of infection.
   Breasts are non-tender.
   - d/c MgSO4, as she is now 48hrs post-delivery.
   - Continue monitoring abdominal incision for sign of infection.
   - Continue monitoring breasts for mastitis/breast engorgement. Treat
   breast engorgement with ice and compression.
   # Depression:
   -          psychiatry eval when medically stabilized and extubated.
   -          Social work eval when medically stable and extubated.
   ICU Care
   Nutrition: NPO until safely extubated.
   Glycemic Control:  None.
   Lines: PIV x2; A-line placed
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Pantoprazole
   VAP:  HOB elevated. Mouth care.
   Communication:  Mother [**Name (NI) 359**] ([**Telephone/Fax (1) 360**]), [**Name2 (NI) 361**]er [**Name (NI) 362**] ([**Telephone/Fax (1) 363**]),
   brother [**Name (NI) 364**] ([**Telephone/Fax (1) 365**])
   Code status: Full
   Disposition: ICU
   [**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 379**], MS4
   03:42 PM
References
   Visible links
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_42%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_43%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_44%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_45%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_44%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_45%22);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_46%22);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_47%22);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_48%22);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_50%22);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);
  26. JavaScript:parent.POPUP(self,%22_WEBTAG=_36%22);
  27. JavaScript:parent.POPUP(self,%22_WEBTAG=_37%22);
  28. JavaScript:parent.POPUP(self,%22_WEBTAG=_38%22);
  29. JavaScript:parent.POPUP(self,%22_WEBTAG=_60%22);
  30. JavaScript:parent.POPUP(self,%22_WEBTAG=_61%22);
  31. JavaScript:parent.POPUP(self,%22_WEBTAG=_62%22);
  32. JavaScript:parent.POPUP(self,%22_WEBTAG=_55%22);
  33. JavaScript:parent.POPUP(self,%22_WEBTAG=_56%22);
  34. JavaScript:parent.POPUP(self,%22_WEBTAG=_57%22);
   Hidden links:
  35. javascript:command('LHUC','expand')

2197-08-22 06:37:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   Extubated w/o incident yesterday AM. Breathing comfortably on RA
   afterwards.
   RUQ US showed patent hepatic vasculature with appropriate flow
   directions, no biliary dilatation, R pleural effusion.
   INR recovering, therefore now taken off of xplant list. Blood bank was
   made aware, as they had been reserving blood for her.
   Renal decided not to dialyze. Will re-evaluate this AM.
   Ordered gentle pain meds, 1mg q6h and hold for any decline in mental
   status. Instructions not to give unless pt fully oriented or HO paged
   to avoid missing altered MS [**First Name (Titles) **] [**Last Name (Titles) 384**] from liver failure.
   Received 1U pRBC for hct of 20 with tachycardia to 110s, per surgery
   recs.
   Desaturated to 86% in the setting of low glucose and grogginess. Put on
   6L by face tent and O2 sat increased into 90s. Off face tent sats
   around 90.
   Recurrent hypoglycemias, with FSBG of 44 and 72. Given 25mg D.
   Pt is not passing gas and has not had a BM since Thursday. Surgery
   commented that this is normal post-op, particularly given her
   immobility. Gave lactulose enema x 1
 stool and gas, which is
   continuing.
   SW and Psych consulted. Recs pending.
   Subjective:
   Sleepy but denies HA or confusion. Does not feel particularly SOB.
   Abdominal pain unchanged. Feels very embarrassed about her suicide
   attempt, but glad that it didn
t work. Not currently suicidal or
   feeling depressed. Thirsty.
   Allergies:
   No Known Drug Allergies
   Flowsheet Data as of  [**2197-8-22**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax = 98.8
   Tcur = 97.9 (97.9-98.8)
   HR = 109 (94-115)
   BP = 140/91 (116/61-142/84)
   RR = 22 (20-30)
   O2 sat = 98% (86-100%)
                  Total In:
                                                                      4364
                                                                       616
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                       529
                                                                       210
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   ABG: 7.43/37/76.[**Numeric Identifier 299**]/21/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Slight crackles at bases
   bilaterally., No(t) Bronchial: , No(t) Wheezes : , Diminished: At bases
   bilaterally., No(t) Absent : , No(t) Rhonchorous: ), Poor air movement
   bilaterally
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   Diffusely mildly tender, Obese, Phanensteil incision appears clean,
   without erythema, edema, or exudate.
   Extremities: Right: 1+, Left: 1+, Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice, ? slight jaundice across body
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, place (hospital but not [**Hospital3 389**]), and time,
   Movement: Purposeful, Tone: Normal, Somnolent
   Labs / Radiology
   144 K/uL
   8.0 g/dL
   60 mg/dL
   5.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   29 mg/dL
   89 mEq/L
   139 mEq/L
   23.3 %
   28.7 K/uL
        [image002.jpg]
   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [1][**2197-8-22**] 05:29AM
                                     60*
                                     29*
                                    5.5*
                                     PND
                                     PND
                                     PND
                                     PND
   Source: Line-arterial; TROUGH
   [2][**2197-8-21**] 11:30PM
                                   45*[1]
                                   27*[2]
                                   4.9*[2]
                                   139[3]
                                   4.5[2]
                                   89*[2]
                                    22[4]
                                     33*
   Source: Line-arterial
   [3][**2197-8-21**] 05:46PM
                                     96
                                     25*
                                    4.5*
                                   137[3]
                                     4.3
                                     89*
                                     23
                                     29*
   Source: Line-a line
   [4][**2197-8-21**] 11:51AM
                                     92
                                     23*
                                    4.1*
                                   136[3]
                                     4.1
                                     91*
                                     21*
                                     28*
   Source: Line-aline
   [5][**2197-8-21**] 06:00AM
                                     101
                                     23*
                                    3.7*
                                   136[3]
                                     4.2
                                     92*
                                     20*
                                     28*
   [6][**2197-8-21**] 03:00AM
                                     101
                                     23*
                                    3.4*
                                   137[3]
                                     4.4
                                     94*
                                     16*
                                     31*
   Source: Line-arterial
   [7][**2197-8-21**] 12:06AM
                                     99
                                     22*
                                    3.2*
                                   136[3]
                                     4.7
                                     94*
                                   14*[5]
                                     33*
                             [**2197-8-21**]  06:00 AM
                             [**2197-8-21**]  06:04 AM
                             [**2197-8-21**]  11:51 AM
                             [**2197-8-21**]  12:20 PM
                             [**2197-8-21**]  05:46 PM
                             [**2197-8-21**]  06:05 PM
                             [**2197-8-21**]  11:30 PM
                             [**2197-8-21**]  11:37 PM
                             [**2197-8-22**]  05:29 AM
                             [**2197-8-22**]  05:39 AM
   WBC
   27.5
   28.6
   26.9
   29.0
   28.7
   Hct
   23.4
   22.1
   20.7
   24.3
   23.3
   Plt
   111
   108
   112
   120
   144
   Cr
   3.7
   4.1
   4.5
   4.9
   5.5
   TCO2
   21
   25
   27
   25
   25
   Glucose
   101
   80
   92
   96
   45
   60
   Other labs: PT / PTT / INR:41.2/45.7/4.5, ALT / AST:6080/5250, Alk Phos
   / T Bili:373/5.4, Amylase / Lipase:80/23, Differential-Neuts:93.4 %,
   Lymph:4.0 %, Mono:1.3 %, Eos:0.0 %, Fibrinogen:119 mg/dL, Lactic
   Acid:5.4 mmol/L, Albumin:2.0 g/dL, LDH:4230 IU/L, Ca++:8.3 mg/dL,
   Mg++:7.4 mg/dL, PO4:9.2 mg/dL
   BASIC COAGULATION (PT, PTT, PLT, INR)
                                     PT
                                     PTT
                                   INR(PT)
   [8][**2197-8-22**] 05:29AM
   [9][**2197-8-22**] 05:29AM
                                    41.2*
                                    45.7*
                                    4.5*
   [10][**2197-8-21**] 11:30PM
   [11][**2197-8-21**] 11:30PM
                                    44.0*
                                    53.2*
                                    4.9*
   [12][**2197-8-21**] 05:46PM
   [13][**2197-8-21**] 05:46PM
                                  49.1*[1]
                                    56.1*
                                   5.6*[1]
   [14][**2197-8-21**] 11:51AM
   [15][**2197-8-21**] 11:51AM
                                    55.6*
                                    61.7*
                                   6.5*[2]
   [16][**2197-8-21**] 06:00AM
   [17][**2197-8-21**] 06:00AM
                                  55.8*[3]
                                    60.7*
                                    6.5*
   [18][**2197-8-21**] 03:00AM
   [19][**2197-8-21**] 12:06AM
                                  61.4*[5]
                                    62.3*
                                    7.3*
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [20][**2197-8-22**] 05:29AM
                                     PND
                                  5250*[1]
                                  4230*[1]
   373*
   5.4*
   Source: Line-arterial; TROUGH
   [21][**2197-8-21**] 11:30PM
                                  6080*[1]
                                  6844*[2]
   382*[2]
   4.7*[2]
   Source: Line-arterial
   [22][**2197-8-21**] 05:46PM
                                  6825*[1]
                                    8301*
   375*
   4.1*
   Source: Line-a line
   [23][**2197-8-21**] 11:51AM
                                  7270*[1]
                                  [**Numeric Identifier 385**]*[1]
                                  8870*[1]
   396*
   3.9*
   Source: Line-aline
   [24][**2197-8-21**] 06:00AM
                                  7510*[1]
                                  [**Numeric Identifier 375**]*[1]
                                  9280*[1]
   3.4*
   [25][**2197-8-21**] 03:00AM
                                  8370*[1]
                                  [**Numeric Identifier 373**]*[1]
                                  9920*[1]
   347*
   3.3*
   Source: Line-arterial
   [26][**2197-8-21**] 12:06AM
                                  7780*[1]
                                  [**Numeric Identifier 376**]*[1]
                                  9500*[1]
   3.1*
   CHEMISTRY
                                   TotProt
                                   Albumin
                                   Globuln
                                   Calcium
                                    Phos
                                     Mg
                                   UricAcd
                                    Iron
   [27][**2197-8-22**] 05:29AM
   8.3*
                                    9.2*
                                   7.4*[1]
   Source: Line-arterial; TROUGH
   [28][**2197-8-21**] 11:30PM
   7.8*[2]
                                   9.2*[2]
                                   7.3*[3]
   Source: Line-arterial
   [29][**2197-8-21**] 05:46PM
   8.1*
                                    8.4*
                                   7.6*[4]
   Source: Line-a line
   [30][**2197-8-21**] 11:51AM
   2.0*
   8.2*
                                    8.0*
                                   7.9*[5]
   CALCIUM
                                   freeCa
   [31][**2197-8-22**] 05:39AM
                                  0.97*[1]
   [32][**2197-8-21**] 11:37PM
                                  0.91*[2]
   [33][**2197-8-21**] 06:04AM
                                    1.02*
   [34][**2197-8-21**] 03:09AM
                                    1.00*
   [35][**2197-8-21**] 12:06AM
                                    1.03*
   ANTIBIOTICS
                                    Vanco
   [36][**2197-8-22**] 05:29AM
                                  22.5*[1]
   Source: Line-arterial; TROUGH
   [37][**2197-8-21**] 06:00AM
                                  29.8*[1]
   TOXICOLOGY, SERUM AND OTHER DRUGS
                                     ASA
                                   Ethanol
                                   Acetmnp
                                   Bnzodzp
                                   Barbitr
                                   Tricycl
   [38][**2197-8-21**] 11:30PM
   20.0
   Source: Line-arterial
   [39][**2197-8-21**] 11:51AM
   26.6*
   Source: Line-aline
   [40][**2197-8-20**] 05:24PM
   38.7*
   Source: Line-aline
   [41][**2197-8-19**] 02:47PM
                                     NEG
                                   NEG[1]
                                  175.7*[2]
                                     NEG
                                     NEG
                                     NEG
   WHOLE BLOOD, MISCELLANEOUS CHEMISTRY
                                   Glucose
                                   Lactate
                                     Na
                                      K
                                     Cl
   [42][**2197-8-22**] 05:39AM
   5.4*[1]
   [43][**2197-8-21**] 11:37PM
   6.5*[1]
   [44][**2197-8-21**] 06:05PM
   5.4*[1]
   [45][**2197-8-21**] 12:20PM
   5.8*[1]
   [46][**2197-8-21**] 06:04AM
                                     80
                                   6.4*[1]
   [47][**2197-8-21**] 03:09AM
                                     79
                                   7.5*[1]
   [48][**2197-8-21**] 12:06AM
                                     77
                                   8.3*[1]
   URINE CHEMISTRY
                                    Hours
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
   [49][**2197-8-22**] 04:30AM
                                   RANDOM
                                     81
                                     78
                                     35
                                     83
   Source: Catheter
   [50][image003.gif]   OTHER URINE CHEMISTRY
                                   Osmolal
   [51][**2197-8-22**] 04:30AM
                                     305
   Imaging:
   RUQ US
   FINDINGS: The liver shows no focal or textural abnormality. There is no
   biliary dilatation seen. A right pleural effusion is noted.
   DOPPLER EXAMINATION: The main portal vein, right portal vein and left
   portal
   vein are all patent with hepatopetal flow. Appropriate flow is seen in
   the
   hepatic veins and the IVC. The splenic vein and SMV are patent with
   flow
   toward the liver. Appropriate hepatic waveforms are seen in the main
   hepatic
   artery. Since the examination of one day prior, the previous reversal
   of
   flow in the right portal and splenic veins has resolved.
   IMPRESSION:
   1. Patent hepatic vasculature with appropriate flow directions.
   Previously
   present flow reversal in right portal vein and splenic vein has
   resolved and
   main portal venous hepatopetal flow is now demonstrated.
   2. No biliary dilatation.
   3. Right pleural effusion.
   CXR:
                        Preliminary Report !! PFI !!
   Low lung volumes.
   Per my read, increased diffuse haziness that is worse at bases.
   Assessment and Plan
   22 year old woman with fulminant hepatic failure following
   acetaminophen overdose as suicide attempt. Also s/p emergent Caesarian
   section this morning for pre-ecclampsia.
   #Acetaminophen overdose: Leading to hepatic failure with dramatically
   elevated LFTs (peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on [**8-21**] and
   INR = 8.1 at 9:22pm on [**8-20**]).
   - Continue serial neuro exams with close attention to mental status.
   Keep transplant surgery abreast of any changes in mental status.
   - Continue following daily acetaminophen levels.
   - Continue N-acetylcysteine 1462 mg/hr IV drip until acetaminophen
   level is undetectable and AST and ALT drop below 1000.
   - Following q6h INR, PT, PTT, electrolyes, CBC, and LFTs for the next
   12 hours, then consider spacing out.
   - Vitamin K 5mg PO daily per hepatology rec: will not obscure degree of
   liver function because liver will only be able to use vit K to make
   clotting factors to the degree to which it
s functional.
   - Continue q2h fingersticks.  FSBGs have been low (44 and 72 and 70).
   # Respiratory failure: Successfully extubated yesterday, however
   respiratory status still somewhat tenuous. Decreased air movement, and
   breath sounds at bases this AM. Chest x-ray suggests increased
   pulmonary edema v. effusion.
   -          Trial off O2 by face tent.
   -          Continue IS at least hourly.
   -          HOB elevated.
   -          Encourage OOB.
   -          Continue vanc and zosyn for any present or potential
   infection. However, vanc currently held for supertherapeutic level.
   # ARF: Creatinine still rising and currently 5.5. Urine output
   continuing but low (10-20cc/hr). FeNa this AM = 1.8, consistent with
   ATN from acetaminophen.
   -          Renal recommends holding off on dialysis for today, as
   kidneys are continuing to produce urine at a low rate and body is
   managing the fluid overload.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of Tylenol-induced hepatic damage.
   Has been frequently hypoglycemic since stopping D5W yesterday because
   of concern for volume overload in the setting of ARF and pulmonary
   edema.
   -          Continue q2h FSBG and repletion with amps of D50.
   -          Turn NG suction off then advance diet as tolerated, as soon
   as pt is consistently passing gas and having BMs.
   # Abdominal pain: Stable, pulsitile, diffuse abdominal pain could
   represent expected post-op pain v. hepatic failure v. other
   intrabdominal inflammation (such as pancreatitis), v. developing
   infection (such as chorioamnionitis). However, infection seems less
   likely given that pt is afebrile, she is normotensive, WBC count is
   stable, and she has no vaginal bleeding or exudate from wound.
   -          Continue efforts to use local comfort measures (ie heat
   packs) and minimize pain meds. Morphine 1mg q4h prn for pain, but only
   to be given if clear mental status.
   -          Continue to monitor symptom and physical exam, as well as
   vitals and WBC.
   -          Continue vancomycin and zosyn until labs stabilize and cxs
   come back negative. However, hold vanc for now as level is
   supertherapeutic.
   -          Repeat vanc trough in AM given changing renal status amd
   re-dose as needed.
   - OOB as tolerated today, which is likely to help speed return of
   normal bowel function.
   # Anemia: Likely due to combination of post-partum, s/p c-section,
   dilutional, and stress-related bone marrow suppression. Vaginal
   bleeding is scant. Pt received 1u PRBCs yesterday and hct bumped an
   appropriate 3.5 points. Hct has declined just 1 point since then,
   confirming that there is no current brisk bleed.
   -          Continue to follow q6h hct.
   -          Consider transfusing for hct < 20 if there are signs of
   hemodynamic or respiratory compromise.
   # Leukocytosis: Improving; peaked at 34.9 [**8-20**]. Now slowly falling. Pt
   is afebrile, so this could represent an inflammatory reaction in the
   setting of hepatic failure. CXR shows atelectasis, but no sign of
   pneumonia. Phanensteil incision looks uninfected, as above. Breasts
   appear normal. U/A from [**8-20**] showed 147 WBC. Urine cx from [**8-19**] was
   negative, but an infection could have developed since then.
   -          Continue to follow WBC
   -          f/u cultures.
   -          Continue vanc and zosyn until labs stabilize and cultures
   come back negative. However, hold vanc for now as level is
   supertherapeutic.
   # Positive U/A: However urine cx [**8-19**] was negative. Urine cx from [**8-20**]
   is pending.
   -          f/u urine cx.
   -          Broad spectrum antibiotics (vanco and zosyn) will cover UTI.
   # Metabolic acidosis: Likely secondary to lactic acidosis from acute
   hepatic failure. ABGs show resolution: pH = 7.42.
   - D/c regular ABGs.
   # s/p C-section complicated by likely pre-ecclampsia: Phanensteil
   incision is clean, without exudate or erythema. No sign of infection.
   Breasts are non-tender.
   - d/c MgSO4, as she is now 48hrs post-delivery and hypermagnesemic
   - Continue monitoring abdominal incision for sign of infection.
   - Continue monitoring breasts for mastitis/breast engorgement. Treat
   breast engorgement with ice and compression.
   # Depression: Not currently feeling suicidal, but rather just very
   embarrassed.
   - Psych and SW evals today. They have been contact[**Name (NI) **].
   ICU Care
   Nutrition: Turn NG suction off. Advance diet as tolerated, as long as
   pt continues passing gas or having BMs and mental status is alert
   enough to allow for safe swallowing. Continue to follow electrolytes
   q6h today and replete as needed.
   Glycemic Control:  Finger sticks q2h. Amps of D50% for hypoglycemia.
   ADAT, as above.
   Lines:
   PIV x 2.
   A-line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation. Incentive spirometry hourly. OOB as tolerated.
   Communication:  Mom and Dad in the hospital most of the day and night.
   Code status: Full.
   Disposition: ICU.
   [**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 379**], MS4, pager #[**Numeric Identifier 386**]
   12:12
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_46%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_47%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_48%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_49%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_50%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_51%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_52%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_17%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_18%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
  18. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
  19. JavaScript:parent.POPUP(self,%22_WEBTAG=_30%22);
  20. JavaScript:parent.POPUP(self,%22_WEBTAG=_61%22);
  21. JavaScript:parent.POPUP(self,%22_WEBTAG=_62%22);
  22. JavaScript:parent.POPUP(self,%22_WEBTAG=_63%22);
  23. JavaScript:parent.POPUP(self,%22_WEBTAG=_64%22);
  24. JavaScript:parent.POPUP(self,%22_WEBTAG=_65%22);
  25. JavaScript:parent.POPUP(self,%22_WEBTAG=_66%22);
  26. JavaScript:parent.POPUP(self,%22_WEBTAG=_67%22);
  27. JavaScript:parent.POPUP(self,%22_WEBTAG=_75%22);
  28. JavaScript:parent.POPUP(self,%22_WEBTAG=_76%22);
  29. JavaScript:parent.POPUP(self,%22_WEBTAG=_77%22);
  30. JavaScript:parent.POPUP(self,%22_WEBTAG=_78%22);
  31. JavaScript:parent.POPUP(self,%22_WEBTAG=_124%22);
  32. JavaScript:parent.POPUP(self,%22_WEBTAG=_125%22);
  33. JavaScript:parent.POPUP(self,%22_WEBTAG=_126%22);
  34. JavaScript:parent.POPUP(self,%22_WEBTAG=_127%22);
  35. JavaScript:parent.POPUP(self,%22_WEBTAG=_128%22);
  36. JavaScript:parent.POPUP(self,%22_WEBTAG=_93%22);
  37. JavaScript:parent.POPUP(self,%22_WEBTAG=_94%22);
  38. JavaScript:parent.POPUP(self,%22_WEBTAG=_95%22);
  39. JavaScript:parent.POPUP(self,%22_WEBTAG=_96%22);
  40. JavaScript:parent.POPUP(self,%22_WEBTAG=_97%22);
  41. JavaScript:parent.POPUP(self,%22_WEBTAG=_98%22);
  42. JavaScript:parent.POPUP(self,%22_WEBTAG=_103%22);
  43. JavaScript:parent.POPUP(self,%22_WEBTAG=_104%22);
  44. JavaScript:parent.POPUP(self,%22_WEBTAG=_105%22);
  45. JavaScript:parent.POPUP(self,%22_WEBTAG=_106%22);
  46. JavaScript:parent.POPUP(self,%22_WEBTAG=_107%22);
  47. JavaScript:parent.POPUP(self,%22_WEBTAG=_108%22);
  48. JavaScript:parent.POPUP(self,%22_WEBTAG=_109%22);
  49. JavaScript:parent.POPUP(self,%22_WEBTAG=_139%22);
  50. javascript:command('LCUB','expand')
  51. JavaScript:parent.POPUP(self,%22_WEBTAG=_140%22);

2197-08-23 06:50:00 Physician Resident Progress Note
24 Hour Events:
   - Renal continuing to hold on dialysis.  Cr continues to rise (now 6.7)
   but UOP continues between 20-30cc/hr.
   - NGT removed. Transitioned to full liquids. Has not had much to drink.
   - Mental status increasingly altered, with confusion about where she is
   and impulsive behavior such as trying to pull NG and central line out.
   Per liver, encephalopathy may not be hepatic. Can try to give lactulose
   po, but if pt does not tolerate ok to hold.
   - SW and psych following.  Pt sectioned per psych and will most likely
   require inpt psych treatment after this hospitalization.
   - Got another 1 [**Location 392**] for tachycardia and hct 20.3
 21.0.
   - Has not received pain meds since yesterday at 8:45am. Tolerating
   pain.
   Subjective:
   Feels sleepy and confused, but denies HA. Not SOB. Abdominal pain
   improved, but still present.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Zosyn
   Vanc, has been held for past 2 days for supratherapeutic levels.
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2197-8-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
   Since 12 AM
   Tmax = 98.9
   Tcur = 98.6
   HR = 108(108-130)
   BP = 162/90 (124/65-153/94)
   O2 sat = 96% on RA (95-100% on 2L by NC and RA)
                  Total In:
                                                                      [**2116**]
                                                                       623
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                       919
                                                                       433
   Urine:
                                                                20-30cc/hr
                                                                20-30cc/hr
   NG:
   Stool:
                                         3 liquid brown, heme-negative BMs
   Drains:
   Balance:
   Respiratory support
   ABG: ///19/
   Physical Examination
   General Appearance: Somnolent. Well nourished, No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal), (S2:
   No(t) Normal, No(t) Distant, No(t) Loud, Widely split , No(t) Fixed),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : ), Better air movement today. No crackles heard.
   Abdominal: No(t) Soft, No(t) Non-tender, Occasional bowel sounds,
   Distended, Tender: Tenderness worse over epigastrum., Obese, Centrally
   tympanic abdomen. Phanensteil incision is clean, dry and intact.
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, Confused and has difficulty
   concentrating. Could not list months of the year backward. 3+ biceps,
   brachioradialis, and patellar reflexes bilaterally. Asterixis flap.
   Labs / Radiology
   158 K/uL
   7.4 g/dL
   93 mg/dL
   6.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   33 mg/dL
   87 mEq/L
   139 mEq/L
   21.0 %
   18.1 K/uL
        [image002.jpg]
   FSBGs: 87, 75, 73, 62, 103, 101, 87
                             [**2197-8-21**]  11:51 AM
                             [**2197-8-21**]  12:20 PM
                             [**2197-8-21**]  05:46 PM
                             [**2197-8-21**]  06:05 PM
                             [**2197-8-21**]  11:30 PM
                             [**2197-8-21**]  11:37 PM
                             [**2197-8-22**]  05:29 AM
                             [**2197-8-22**]  05:39 AM
                             [**2197-8-22**]  05:46 PM
                             [**2197-8-23**]  01:02 AM
   WBC
   28.6
   26.9
   29.0
   28.7
   21.3
   18.1
   Hct
   22.1
   20.7
   24.3
   23.3
   20.3
   21.0
   Plt
   108
   112
   120
   144
   156
   158
   Cr
   4.1
   4.5
   4.9
   5.5
   6.4
   6.7
   TCO2
   25
   27
   25
   25
   Glucose
   92
   96
   45
   60
   54
   93
   Other labs:
   PT / PTT / INR:32.2/34.9/3.3 (all trending down)
   ALT / AST:3070/1735 (trending down)
   Alk Phos / T Bili:302/6.8 (alk phos trending down, T bili continues to
   rise)
   Amylase / Lipase:140/116
   AFP = 77
   Albumin:1.9 g/dL
   LDH:1701 IU/L
   Ca++:7.5 mg/dL, Mg++:6.9 mg/dL, PO4:10.1 mg/dL (all trending down)
   Vanc trough: 18.7
   Acetaminophen: 15.3
   Micro:
   CMV negative
   Rubella immune
   CXR:
   1. No radiographic evidence of pneumonia.
   2. Persistent retrocardiac atelectasis and small effusions. Very low
   lung
   volumes. No CHF.
   3. Dilated, gas-filled loops of bowel.
   Assessment and Plan
   22 year old woman with fulminant hepatic failure following
   acetaminophen overdose as suicide attempt. Also s/p emergent Caesarian
   section this morning for pre-ecclampsia.
   #Acetaminophen overdose: Leading to hepatic failure with dramatically
   elevated LFTs (peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on [**8-21**] and
   INR = 8.1 at 9:22pm on [**8-20**]). Liver enzymes have been trending
   downward, save for T bili which is still lagging. AFP was checked per
   toxicology and is high (77), indicating regeneration of liver.
   - Continue serial neuro exams with close attention to mental status.
   - Repeat head CT.
   - Check lactate, given increase anion gap.
   - Continue following daily acetaminophen levels.
   - Continue N-acetylcysteine 1462 mg/hr IV drip until acetaminophen
   level is undetectable and AST and ALT drop below 1000.
   - Change INR, PT, PTT, electrolyes, CBC, and LFTs checks to q 12 hours.
   - Vitamin K 5mg PO daily per hepatology rec: will not obscure degree of
   liver function because liver will only be able to use vit K to make
   clotting factors to the degree to which it
s functional.
   - Continue q2h fingersticks.  Give juice if sugar is low and she is
   awake enough to take POs.
   # Altered mental status: Ammonia toxicity (she has an asterixis flap)
   v. diphenhydramine effect v. hypoglycemic effect (less likely given
   that she has been altered when blood sugars are normal) v. delirium
   from being in the ICU, being ill, and having very disturbed sleep v. Mg
   toxicity (but hyper- not hyporeflexic and Mg trending downward) v. low
   ionized Ca+.
   -          Follow asterixis flap.
   -          Try lactulose PO.
   -          Repeat head CT.
   -          Could try haldol for delirium, per psych. Not currently
   appropriate.
   # Elevated phosphorous: PO4 10.1, total Ca = 7.5 but ionized Ca from
   yesterday was 0.97.
   -          Aluminum hydroxide, 30mg TID.
   # Respiratory failure: Successfully extubated yesterday, however
   respiratory status still somewhat tenuous. Decreased air movement, and
   breath sounds at bases this AM. Chest x-ray suggests increased
   pulmonary edema v. effusion.
   -          Trial off O2 by face tent.
   -          Continue IS at least hourly.
   -          HOB elevated.
   -          Encourage OOB.
   -          Continue vanc and zosyn for any present or potential
   infection. However, vanc currently held for supertherapeutic level.
   # ARF: Creatinine still rising and currently 5.5. Urine output
   continuing but low (10-20cc/hr). FeNa this AM = 1.8, consistent with
   ATN from acetaminophen.
   -          Renal recommends holding off on dialysis for today, as
   kidneys are continuing to produce urine at a low rate and body is
   managing the fluid overload.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of Tylenol-induced hepatic damage.
   Has been frequently hypoglycemic since stopping D5W yesterday because
   of concern for volume overload in the setting of ARF and pulmonary
   edema.
   -          Continue q2h FSBG and repletion with amps of D50.
   -          Turn NG suction off then advance diet as tolerated, as soon
   as pt is consistently passing gas and having BMs.
   # Abdominal distention and pain: Abdominal distention increased today.
   Tympanic centrally. Diffuse abdominal pain could represent expected
   post-op pain v. hepatic failure v. other intrabdominal inflammation
   (such as pancreatitis), v. developing infection (such as
   chorioamnionitis). However, infection seems less likely given that pt
   is afebrile, she is normotensive, WBC count is stable, and she has no
   vaginal bleeding or exudate from wound.
   -          Continue efforts to use local comfort measures (ie heat
   packs) and minimize pain meds.
   -          Continue vancomycin and zosyn until labs stabilize and cxs
   come back negative.
   -          OOB as tolerated today, which is likely to help speed return
   of normal bowel function.
   # Anemia: Likely due to combination of post-partum, s/p c-section,
   dilutional, and stress-related bone marrow suppression. Lochia has
   picked up since getting OOB, however still not substantial enough to
   account for anemia. Pt received 1u PRBCs yesterday and hct bumped less
   than 1 point.
   -          Follow q12h hcts.
   -          Consider transfusing for hct < 20 if there are signs of
   hemodynamic or respiratory compromise.
   # Leukocytosis: Improving; peaked at 34.9 [**8-20**]. Now slowly falling. Pt
   is afebrile, so this could represent an inflammatory reaction in the
   setting of hepatic failure. CXR shows no sign of pneumonia. Phanensteil
   incision looks uninfected, as above. Breasts appear normal.
   -          Continue to follow WBC.
   -          f/u cultures.
   -          Continue vanc and zosyn until labs stabilize and cultures
   come back negative.
   # Depression: Not currently feeling suicidal, but rather just very
   embarrassed.
   -         Communicate with psych regarding future treatment for
   depression, including inpatient hospitalization once she
s medically
   stable.
   # Positive U/A: However urine cx [**8-19**] was negative.
   -          Broad spectrum antibiotics (vanco and zosyn) will cover UTI.
   # s/p C-section complicated by likely pre-ecclampsia: Phanensteil
   incision is clean, without exudate or erythema. No sign of infection.
   Breasts are non-tender.
   - Continue monitoring abdominal incision for sign of infection.
   - Continue monitoring breasts for mastitis/breast engorgement. Treat
   breast engorgement with ice and compression.
   ICU Care
   Nutrition: Full liquid diet. Has not been ingesting much.
   Glycemic Control:  FSBG q2h. Give juice first for hypoglycemia.
   Lines: Multilumen RIJ
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Protonix
   VAP:  HOB elevated. IS. OOB as tolerated.
   Communication:  With parents.
   Code status: Full
   Disposition: ICU
   [**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 379**], MS4
   12:46

2197-08-24 06:56:00 Physician Resident Progress Note
24 Hour Events:
   Head CT: cerebral edema.
   Pulled out central venous line. PICC and PIV placed.
   2u PRBCs for hct <21. Lead to 3pt bump in hct.
   CT abdomen:
   Q6H serum osm. If <320 12.5gm mannitol. Got a dose at 5pm, midnight,
   and 6:30am.
   Renal: Started on CVVH given intracerebral edema and need for diuresis.
   2 u frozen plasma were given to normalize INR prior to beginning
   hemodialysis. Goal fluid balance was 100mL more negative than the
   amount of mannitol given.
   Neurosurgery: Serial neuro exams. If pupils become fixed/dilated will
   consider surgery otherwise no need now.
   Intubated at midnight. RIJ CVL and A-line placed.
   Heme: No hemolysis. Check indirect bili and coombs test and fibrinogen
   level. (pending).
   Hepatology: Send urine organic acid as may be contributing to high
   anion gap. Apparently when liver begins metabolizing acetominophen the
   metabolites can build up organic acids and cause an anion gap.
   Off propofol for 45mins, but remained essentially unresponsive and had
   Cushingoid reflex (HTN and bradycardia).
   Repeat head CT done at 6:30am.
   Neurosurg plans to take her for placement of an ICP monitor.
   Hyperventilation to PC02 of 30, 3u FFP, fibrinogen, platelets before
   then. Maintain cerebral perfusion pressure above 70, with pressors if
   necessary.
   Renal plans to ultrafiltrate her, with goal of bringing serum osms up
   to 325.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2197-8-24**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax
   Tmin
   Tcur
   HR = 65 (59-112)
   BP = 156/99 (152/81-161/95)
   RR = 18 (18-24)
   O2 sat = 100 (94-100)
                  Total In:
                                                                      3207
                                                                      [**2162**]
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      1288
                                                                      1779
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   AC: FiO2 = 0.40, Tv = 550, RR = 18, PEEP = 5, PIP = 31, Plauteau = 21
   ABG:
   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
   [1][**2197-8-24**] 04:14AM
                                     ART
   188*
                                     34*
                                    7.44
                                     24
                                      0
   [2][**2197-8-24**] 12:14AM
                                     ART
   191*
                                     39
                                    7.39
                                     24
                                      0
   [3][**2197-8-23**] 09:56PM
                                     ART
   199*
                                     34*
                                    7.44
                                     24
                                      0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   7.5 g/dL
   91 mg/dL
   6.3 mg/dL
   21 mEq/L
   3.4 mEq/L
   37 mg/dL
   91 mEq/L
   139 mEq/L
   21.0 %
   12.5 K/uL
        [image002.jpg]
   Anion gap = 31 (down from 35 and previously 39)
   Ca++:9.0 mg/dL (up), Mg++:5.6 mg/dL (down), PO4:6.9 mg/dL (down)
   Free Ca = 0.91
                             [**2197-8-22**]  05:39 AM
                             [**2197-8-22**]  05:46 PM
                             [**2197-8-23**]  01:02 AM
                             [**2197-8-23**]  01:47 PM
                             [**2197-8-23**]  09:45 PM
                             [**2197-8-23**]  09:56 PM
                             [**2197-8-24**]  12:00 AM
                             [**2197-8-24**]  12:14 AM
                             [**2197-8-24**]  04:00 AM
                             [**2197-8-24**]  04:14 AM
   WBC
   21.3
   18.1
   14.0
   14.3
   12.5
   Hct
   20.3
   21.0
   19.6
   22.8
   21.0
   Plt
   156
   158
   154
   97
   81
   Cr
   6.4
   6.7
   7.3
   7.4
   7.0
   6.3
   TCO2
   25
   24
   24
   24
   Glucose
   54
   93
   92
   76
   62
   86
   91
   Other labs:
   PT / PTT / INR:25.7/36.0/2.5
   ALT / AST:1497/473
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [4][**2197-8-24**] 04:00AM
                                    1497*
                                    473*
                                    1086*
   233*
                                    112*
                                    9.3*
                                    6.4*
                                     2.9
   Amylase / Lipase:112/102 (slightly down from their peak)
   Fibrinogen:105 mg/dL
   Lactic Acid:4.2 mmol/L (
5.4)
   Albumin:2.0 g/dL
   LDH:1086 IU/L
   Acetone negative.
   OTHER CHEMISTRY
                                   Acetone
                                   Osmolal
   [5][**2197-8-24**] 04:00AM
   300
   Source: Line-arterial
   [6][**2197-8-24**] 12:00AM
   304
   Source: Line-arterial
   [7][**2197-8-23**] 09:45PM
                                 NEGATIVE[1]
                                     305
   [8][**2197-8-23**] 01:47PM
   300
   Acetaminophen: 7.5
   Vanco level: pnd
   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Spheroc
                                   Ovalocy
                                    Burr
   [9][**2197-8-23**] 01:47PM
                                    1+[1]
                                     1+
                                     1+
                                   NORMAL
                                     1+
                                 OCCASIONAL
                                 OCCASIONAL
                                 OCCASIONAL
   Micro:
   VRE rectal swab negative.
   Varicella zoster immune.
   Imaging:
   Abdominal US:
   FINDINGS: Small amount of ascites is noted in the right upper quadrant
   in the
   perihepatic region as well as in the left upper quadrant. The right
   lower
   quadrant demonstrates the largest pocket of ascites measuring
   approximately 5
   cm in depth.
   IMPRESSION:
   Four quadrant survey demonstrates a small amount of ascites with the
   largest
   pocket in the right lower quadrant measuring 5.2 cm.
   In discussion with Dr. [**Last Name (STitle) 356**] and Dr. [**Last Name (STitle) 398**], the decision to perform
   diagnostic
   paracentesis was deferred in view of elevated INR (INR 3.2).
   Head CT:
   PFI: Compared to prior examination, there is more prominent effacement
   of the
   cerebral sulci especially at the convexity. The ventricles remain small
   in
   size with stable in appearance. There is no evidence for herniation. No
   hemorrhage.
   Repeat head CT:
   No interval change in degree of edema, and no new hemorrhage.
   Assessment and Plan
   22 year old woman with fulminant hepatic failure following
   acetaminophen overdose as suicide attempt. Also s/p emergent Caesarian
   section this morning for pre-ecclampsia.
   # Altered mental status: Due to elevated ICP. Underlying etiology
   remains unclear; Ammonia toxicity (she has an asterixis flap) v.
   diphenhydramine effect v. hypoglycemic effect (less likely given that
   she has been altered when blood sugars are normal) v. delirium from
   being in the ICU, being ill, and having very disturbed sleep v. Mg
   toxicity (but hyper- not hyporeflexic and Mg trending downward) v. low
   ionized Ca+.
   -          Elevated HOB.
   -          ICP monitor to be placed this AM.
   -          FFP, platelets, cryprecipitate, hyperventilation in
   preparation of procedure.
   -          Continue mannitol.
   #Acetaminophen overdose: Leading to hepatic failure with dramatically
   elevated LFTs (peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on [**8-21**] and
   INR = 8.1 at 9:22pm on [**8-20**]). Liver enzymes have been trending
   downward, save for T bili which is still lagging. AFP was checked per
   toxicology and is high (77), indicating regeneration of liver.
   - Continue following lactate and anion gap.
   - Continue following daily acetaminophen levels.
   - Continue N-acetylcysteine 1462 mg/hr IV drip until acetaminophen
   level is undetectable and AST and ALT drop below 1000.
   - Change INR, PT, PTT, electrolyes, CBC, and LFTs checks to q 12 hours.
   - Vitamin K 5mg PO daily per hepatology rec: will not obscure degree of
   liver function because liver will only be able to use vit K to make
   clotting factors to the degree to which it
s functional.
   - Continue q2h fingersticks.  Give juice if sugar is low and she is
   awake enough to take POs.
   # Anion gap metabolic acidosis:
   -          F/u labs
   # Elevated phosphorous: PO4 10.1, total Ca = 7.5 but ionized Ca from
   yesterday was 0.97.
   -          Aluminum hydroxide, 30mg TID.
   # Respiratory failure: Successfully extubated yesterday, however
   respiratory status still somewhat tenuous. Decreased air movement, and
   breath sounds at bases this AM. Chest x-ray suggests increased
   pulmonary edema v. effusion.
   -          Trial off O2 by face tent.
   -          Continue IS at least hourly.
   -          HOB elevated.
   -          Encourage OOB.
   -          Continue vanc and zosyn for any present or potential
   infection. However, vanc currently held for supertherapeutic level.
   # ARF: Creatinine still rising and currently 5.5. Urine output
   continuing but low (10-20cc/hr). FeNa this AM = 1.8, consistent with
   ATN from acetaminophen.
   -          Renal recommends holding off on dialysis for today, as
   kidneys are continuing to produce urine at a low rate and body is
   managing the fluid overload.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of Tylenol-induced hepatic damage.
   Has been frequently hypoglycemic since stopping D5W yesterday because
   of concern for volume overload in the setting of ARF and pulmonary
   edema.
   -          Continue q2h FSBG and repletion with amps of D50.
   -          Turn NG suction off then advance diet as tolerated, as soon
   as pt is consistently passing gas and having BMs.
   # Abdominal distention and pain: Abdominal distention increased today.
   Tympanic centrally. Diffuse abdominal pain could represent expected
   post-op pain v. hepatic failure v. other intrabdominal inflammation
   (such as pancreatitis), v. developing infection (such as
   chorioamnionitis). However, infection seems less likely given that pt
   is afebrile, she is normotensive, WBC count is stable, and she has no
   vaginal bleeding or exudate from wound.
   -          Continue efforts to use local comfort measures (ie heat
   packs) and minimize pain meds.
   -          Continue vancomycin and zosyn until labs stabilize and cxs
   come back negative.
   -          OOB as tolerated today, which is likely to help speed return
   of normal bowel function.
   # Anemia: Likely due to combination of post-partum, s/p c-section,
   dilutional, and stress-related bone marrow suppression. Lochia has
   picked up since getting OOB, however still not substantial enough to
   account for anemia. Pt received 1u PRBCs yesterday and hct bumped less
   than 1 point.
   -          Follow q12h hcts.
   -          Consider transfusing for hct < 20 if there are signs of
   hemodynamic or respiratory compromise.
   # Leukocytosis: Improving; peaked at 34.9 [**8-20**]. Now slowly falling. Pt
   is afebrile, so this could represent an inflammatory reaction in the
   setting of hepatic failure. CXR shows no sign of pneumonia. Phanensteil
   incision looks uninfected, as above. Breasts appear normal.
   -          Continue to follow WBC.
   -          f/u cultures.
   -          Continue vanc and zosyn until labs stabilize and cultures
   come back negative.
   # Depression: Not currently feeling suicidal, but rather just very
   embarrassed.
   -         Communicate with psych regarding future treatment for
   depression, including inpatient hospitalization once she
s medically
   stable.
   # Positive U/A: However urine cx [**8-19**] was negative.
   -          Broad spectrum antibiotics (vanco and zosyn) will cover UTI.
   # s/p C-section complicated by likely pre-ecclampsia: Phanensteil
   incision is clean, without exudate or erythema. No sign of infection.
   Breasts are non-tender.
   - Continue monitoring abdominal incision for sign of infection.
   - Continue monitoring breasts for mastitis/breast engorgement. Treat
   breast engorgement with ice and compression.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  q2h FSBS.
   Lines: A-line, central line
   Prophylaxis:
   DVT: Pneumoboots,
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 379**], MS4
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_31%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_32%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_33%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_50%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_93%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_94%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_95%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_96%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);

2197-08-25 06:38:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   ICP bolt placed showing initial ICP in 40s
 30s
 back to 40s
 high
   of 51at 10pm
back to high 30s this AM.
   CVVH ongoing to hemoconcentrate to reduce cerebral edema. Goal ICP <20
   and serum osm > 320. Has required 350mg mannitol to raise osm to 320 as
   of 6a.
   Pt started on low-dose norepinephrine to achieve goal CPP above 70. CPP
   hit low of 62 at 6pm, and has since climbed back into 70s-80s.
   Pt placed in barbituate coma for CNS protection and to keep down
   elevated ICP.
   Q3labs have been followed. Goal fibrinogen >150, INR<1.5, PLT>75,
   HCT>25. Has required 11u FFP, 4u pooled plt, 2u factor VII, and 4U pRBC
   to meet these goals.
   Freq FSBGs have revealed hypoglycemia as low as 51. Has required D50
   twice for hypoglycemia.
   Heme-onc consulted re anemia and thrombocytopenia. They commented that
   there
s no evidence of TTP.
   O/N ammonia elevated to >300. Decreased to 62 on morning labs.
   Pt has not been passed stool for 2 days. Attempted to increase fecal
   output soap [**Last Name (un) 404**] enemas. So far no output.
   Serous vaginal discharge noted this AM. Reported to look like ascites.
   Will consult gyn re endomtritis v other explanations for this
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin on [**8-24**]
   Zosyn on [**8-24**]
   Flowsheet Data as of  [**2197-8-25**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax = 100.5
   Tcur = 96.9
   HR = 86(62-113)
   BP = 152/92 (147/88-199/112)
   RR = 30 (18-30)
   O2 sat = 98% (95-99%)
                  Total In:
                                                                   9000 mL
                                                                   3672 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                   8321 mL
                                                                   3470 mL
   Urine:
                                                               30-175cc/hr
                                                                30-50cc/hr
   NG:
   Stool:
   Drains:
   Balance:
   Respiratory support
   AC / FiO2 = 0.4 / Tv = 500 / RR = 30 / PEEP = 5.0 / PIP = 33 / Plateau
   = 23
   ABG: 7.52/25/172/21/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Heavily sedated.
   Intubated.
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Pupils 3mm and sluggishly reactive. Scleral
   icterus and slight injection.
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, NG tube, No(t) OG tube, ICP bolt monitor placed over
   R frontal bone.
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Rhonchorous: Inspiratory and expiratory rhonchi.)
   Abdominal: Bowel sounds present, Obese, Occasional bowel sounds.
   Somewhat distended, but not taught or firm. No abnormal masses
   palpated.
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   66 K/uL
   10.1 g/dL
   43 mg/dL
   5.0 mg/dL
   21 mEq/L
   3.9 mEq/L
   30 mg/dL
   92 mEq/L
   139 mEq/L
   27.8 %
   23.2 K/uL
        [image002.jpg]
   Anion gap = 30
                             [**2197-8-25**]  02:30 AM
                             [**2197-8-25**]  02:35 AM
                             [**2197-8-25**]  05:01 AM
                             [**2197-8-25**]  05:25 AM
                             [**2197-8-25**]  08:07 AM
                             [**2197-8-25**]  08:19 AM
                             [**2197-8-25**]  11:00 AM
                             [**2197-8-25**]  11:12 AM
                             [**2197-8-25**]  02:01 PM
                             [**2197-8-25**]  02:21 PM
   WBC
   21.9
   22.9
   21.6
   22.9
   23.2
   Hct
   24.3
   25.5
   25.6
   27.7
   27.8
   Plt
   67
   144
   88
   94
   66
   Cr
   5.0
   4.6
   5.0
   5.0
   TCO2
   20
   22
   22
   22
   21
   Glucose
   60
   71
   60
   65
   43
   Other labs:
   PT / PTT / INR:19.6/29.2/1.8
   CK:77
   ALT / AST:433/103
   Alk Phos / T Bili:187/13.0
   Amylase / Lipase:112/102
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %
   Fibrinogen:269 mg/dL
   Lactic Acid:7.5 mmol/L
   Albumin:3.1 g/dL
   LDH:488 IU/L
   Uric acid = 12.0 then 8.2
   Ca++:11.8 mg/dL, Mg++:3.3 mg/dL, PO4:3.3 mg/dL, free Ca = 1.36
   FDPs pending
   Serum osmolarity = 323
   Acetaminophen = negative
   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Spheroc
                                   Ovalocy
                                    Burr
                                   Stipple
   [1][**2197-8-25**] 08:07AM
                                 OCCASIONAL
                                     1+
                                     1+
                                   NORMAL
                                 OCCASIONAL
                                 OCCASIONAL
   OCCASIONAL
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [2][**2197-8-25**] 11:00AM
                                     LG
                                     NEG
                                    >300
                                     NEG
                                     TR
                                     SM
                                     0.2
                                     6.0
                                     TR
   Source: Catheter
   [3][image003.gif]   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [4][**2197-8-25**] 11:00AM
                                   >1000*
                                     38*
                                    NONE
                                    NONE
                                      0
   Micro:
   MRSA negative x 2
   VRE negative
   Blood cultures negative x 2 from [**8-19**]
   Imaging:
   CXR:
   Mild pulmonary edema is stable since [**8-24**], moderate left pleural
   effusion
   change in distribution but not in overall severity. Consolidation at
   the base
   of the left lung is probably atelectasis, though pneumonia cannot be
   excluded.
   Heart size normal. ET tube and nasogastric tube in standard placements,
   right
   jugular line tip projects over the junction of the brachiocephalic
   veins.
   Nasogastric tube ends in the mid stomach. No pneumothorax.
   Abdominal plain film:
   Evidence of abdominal ascites. Unable to assess interval change given
   no
   prior radiograph available.
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt. Found to be 38w
   pregnant and is s/p emergent Caesarian section.
   # Altered mental status: Likely due to elevated ICP. Underlying
   etiology of elevated ICP remains unclear. Likely a sequella of liver
   damage, however time course is later than expected. Per OB/GYN, not
   likely to be due to pre-eclampsia, HELLP, or other post-partum syndrome
   given that change in mental status occurred more than 48 hours after
   delivery. Could be due to additional ingestion, but seems unlikely from
   experience with patient as well as 24-hour sitter and frequent visits
   from family and hospital staff. Could be due to unrelated infectious or
   other process, but this is very unlikely.
   -               Hepatology following.
   -               Neurology following.
   -               OB/GYN consult today for comment upon whether
   post-partum syndrome could be contributing to altered mental status.
   -               Continuous ICP monitoring via ICP monitor.
   -               EEG this AM.
   -               Talk to neuro about whether pentobarbital should be
   increased or decreased.
   -               Arctic Sun protocol to cool pt to 33 degrees, per
   protocol.
   -               Hyperventilate to goal pH of 7.45.
   -               Increase mannitol to as high as 50g q6h with osm goal
   of 325. Check serum osm 1hr after mannitol.
   -               Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP
   drip, additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -               Continue levofed to keep CPP above 70.
   -               Elevated HOB 30 degrees.
   -               Continue following lactate and anion gap.
   -               D/c NAC today, pending hepatology agreement, given that
   AST and ALT are below 1000 and acetaminophen is undetectable.
   -               Continue q2h fingersticks.  Give D50 for hypoglycemia.
   -               Continue PO lactulose.
   -               Minimize stimulation of patient.
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Therefore,
   appears as though liver is recovering well, however new asterixis flap
   on [**8-23**] in combination with decline in mental status raises suspicion
   for ongoing late effects of the liver failure.
   - Plan as above, for altered mental status.
   - Vitamin K 5mg PO daily.
   # Respiratory failure: Respiratory failure is linked to decline in
   mental status.
   -          Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -          Hyperventilate to keep pH at 7.45.
   -          HOB elevated 30 degrees
   -          Continue vanc and zosyn for any present or potential
   infection.
    # Anion gap metabolic acidosis: Could be partially due to citrate
   given during dialysis.
   -          F/u labs ordered per hepatology.
   # ARF: Pt currently on ultrafiltration.
   -          Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage.
   -          Continue q2h FSBG and repletion with amps of D50.
   # Abdominal distention: Abdominal distention slightly decreased today.
   Cause is still unclear, but likely some contribution from ileus and
   from small ascites.
   - Repeat abdominal US today.
   -          Continue vancomycin and zosyn until labs stabilize and cxs
   come back negative.
   - Add cipro to double cover for any potential utero-vaginal infection.
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion. Could be partially dilutional, as she is
   significantly net positive for her length of stay.
   -          Follow q4h hcts.
   -          Transfusing for hct < 25.
   # Leukocytosis: Increased today after previous decline. Differential
   shows bandemia. Pt became febrile to 100.5 for the first time during
   her stay. Could represent infection (intracranial, pulmonary,
   intraabdominal, blood) versus inflammation.
   -          Continue to follow WBC.
   -          Send sputum, stool, and urine gram stain and cultures.
   -          Continue vanc and zosyn until labs stabilize and cultures
   come back negative.
   - Treat empirically for c. diff. with Flagyl.
   - Add cipro for double coverage of possible uterine infection.
   # Depression: Difficult to assess today, as she is intubated and
   sedated.
   # s/p C-section: Phanensteil incision is clean, without exudate or
   erythema. Breasts not engorged.
   ICU Care
   Nutrition: Tube feeds at 10cc/hr.
   Glycemic Control:  Q2h glucose checks and repletion with D50 as needed.
   Lines: D/C PICC line request, given that she has central access.
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Protonix
   VAP:  HOB elevated, mouth care
   Communication: Family present in room.
   Code status: Full.
   Disposition: ICU.
   [**First Name8 (NamePattern2) 378**] [**Last Name (NamePattern1) 379**], MS4
   16:03
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_75%22);
   3. javascript:command('LHUC','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_76%22);

2197-08-26 06:41:00 Physician Resident Progress Note
24 Hour Events:
   -EEG showed level of pentobarb coma to be too deep- decreased dose to
   1mg/kg/hr
   -Needs continuous EEG monitoring, ? start today
   -Started arctic sun cooling protocol.
   -Goals: INR <2; platelets>75k; osm =320; HCT >25.  Req FFP, plate,
   mannitol to reach goals.  Since [**8-25**] at midnight rec
d 11 un FFP,  4 un
   plate, 1un pRBCs
   -Increased mannitol to 50gm q6h prn osm < 325 this morning as last few
   osm ~ 313-314
   -ICP bolt in place ([**Last Name (un) 405**]); ICP trending down, now 22-24
   -Esoph probe placed yesterday
   -Started cipro and fluc, in addition to vanc, zosyn, flagyl.  Diff
   yesterday showed 83%  neutrophils with 4 bands
   -Holding nutrition, lactulose as arctic sun protocol prohibits use of
   the gut
   -Gyn does not believe pt to have been pre-eclamptic
   -Re-listed for liver on [**8-24**]
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Vanc
   Zosyn
   Flagyl
   Cipro
   Fluconazole
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-26**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax = 34.1
   Tcur = 34.0
   HR = 73 (73-80)
   BP = 116/78 (116/78-130s/80s)
   RR = 26
   O2 sat = 99%
   ICP= 22 (22-38)
   CPP= 80
                  Total In:
                                                                      3.1L
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      2.6L
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   AC 500; RR 26; FiO2 40%
   ABG: 7.42/30/199/19/-3
   Physical Examination
   Gen: intubated, sedated, cooling apparatus in place, bolt in forehead
   Skin: icteric
   Abd: soft, slightly distended, no masses/lesions felt
   Ext: edema of hands
   CV: reg rhythm
   Labs / Radiology
   84 K/uL
   10.1 g/dL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   3.3 mEq/L
   25 mg/dL
   97 mEq/L
   138 mEq/L
   28.8 %
   24.3 K/uL
        [image002.jpg]
                             [**2197-8-25**]  05:02 PM
                             [**2197-8-25**]  05:12 PM
                             [**2197-8-25**]  07:47 PM
                             [**2197-8-25**]  08:05 PM
                             [**2197-8-25**]  11:02 PM
                             [**2197-8-25**]  11:10 PM
                             [**2197-8-26**]  01:45 AM
                             [**2197-8-26**]  01:55 AM
                             [**2197-8-26**]  04:57 AM
                             [**2197-8-26**]  05:11 AM
   WBC
   23.2
   25.1
   25.3
   25.2
   24.3
   Hct
   28.2
   28.6
   27.7
   27.2
   28.8
   Plt
   97
   89
   71
   91
   84
   Cr
   4.6
   4.4
   3.6
   3.6
   3.0
   TCO2
   23
   22
   21
   21
   20
   Glucose
   73
   61
   74
   64
   99
   Other labs: PT / PTT / INR:21.2/31.1/2.0, CK / CKMB / Troponin-T:77//,
   ALT / AST:329/77, Alk Phos / T Bili:180/14.2, Amylase / Lipase:112/102,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Fibrinogen:270 mg/dL, Lactic Acid:6.2 mmol/L, Albumin:2.8 g/dL,
   LDH:416 IU/L, Ca++:9.9 mg/dL, Mg++:2.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt. Found to be 38w
   pregnant and is s/p emergent Caesarian section.
   # Elevated ICP:
   Likely a sequella of liver damage, however time course is later than
   expected. Per OB/GYN, not likely to be due to pre-eclampsia, HELLP, or
   other post-partum syndrome.  Could be due to unrelated infectious
   (viral?) or other process, but this is unlikely. Started pentobarb coma
   on [**8-24**].  Relisted for liver on [**8-24**] and if liver becomes available pt
   would most likely go for transplant.  However, situation is complicated
   by both pentobarb coma as well as decreased body temp
 coagulopathy.
   Will consider stopping either the pentobarb or the arctic sun protocol
   today.
   -               Hepatology following.
   -               Neurology following- working on getting continuous EEG
   monitor.  Need today in order to monitor depth of burst suppression
   -               OB/GYN following
   -               Transplant surgery following- would like to d/c
   pentobarb coma
   -               Continuous ICP monitoring via ICP monitor.
   -               Arctic Sun protocol to cool pt to 33 degrees.  Unclear
   as to how long pt will need to stay hypothermic.  Pt will most likely
   rewarm passively.
   -               Hyperventilate to goal pH of 7.45.
   -               Increase mannitol to 50g q6h prn osm< 325.   Change
   diasylate to hypertonic solution.  Can add D10 to this for additional
   dextrose to aid in hypoglycemia.
   -               Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP
   drip, additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -               Continue levophed to keep CPP above 70.
   -               Elevated HOB 30 degrees.
   -               Continue following lactate and anion gap.
   -               Consider d/c NAC today, pending hepatology agreement,
   given that AST and ALT are below 1000 and acetaminophen is
   undetectable.
   -               Continue q2h fingersticks.  Give D50 for hypoglycemia.
   -               Minimize stimulation of patient, but need to attempt to
   obtain sputum culture today to work up leukocytosis
   -               Trophic feeds to decrease likelihood of bacterial
   translocation
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Therefore,
   appears as though liver is recovering well, however new asterixis flap
   on [**8-23**] in combination with elevated ICP raises suspicion for ongoing
   late effects of the liver failure.   Pt also continues to be
   hypoglycemic which is concerning for poor liver function.
   - Plan as above, for altered mental status.
   - Vitamin K
   # Respiratory failure: Intubated while in pentobarb coma.
   - Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -  Hyperventilate to keep pH at 7.45.
   - HOB elevated 30 degrees
    # Anion gap metabolic acidosis: Could be partially due to citrate
   given during dialysis.
   -          F/u labs ordered per hepatology.
   # ARF: Pt currently on ultrafiltration.
   -          Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage.
   -          Continue q2h FSBG and repletion with amps of D50.
   # Abdominal distention: Abdominal distention slightly decreased today.
   Cause is still unclear, but likely some contribution from ileus and
   from small ascites..  Continue to monitor
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion
   -          Follow q4h hcts.
   -          Transfusing for hct < 25.
   # Leukocytosis: Differential shows bandemia. Could represent infection
   (intracranial, pulmonary, intraabdominal, blood) versus inflammation.
   - Continue to follow WBC.
   - Follow up c.diff toxins as well as urine/blood cultures
   - Need to obtain sputum cultures as pulm would be the most likely
   source.  Will use lido to numbe trach in order decrease pt stim.
   -  Continue vanc, zosyn.  Added cipro, flagyl, and fluconazole
   - Check vanc trough level
   # Suicide attempt: psych and social work following.
   # s/p C-section: Pfannensteil incision C, D, I.  Infant in pt
   parents
 custody.
   # Lytes-
   -               Replete as necessary
   -               Only measure ionizied calcium in a critically ill pt
   ICU [**Name (NI) 151**]
   Nutrition: Started trophic feeds, however, this is not a reliable
   source of nutrition.  Started more for abd antibacterial protection
   Glycemic Control:  consistently hypoglycemic.  Need to add d10 to
   hypertonic solution
   Lines:
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: parents
   Code status: full
   Disposition:MICU

2197-08-27 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Required one bag of platelets for platelets 64. Went up to 105 after
   but has slowly trended down after.
   BGTs continued to run low on d20w at 20mL/hr. Went up to 30mL/hr then
   40mL/hr and now in 80s consistently
   Cooling blanket was turned off and temp rose appropriately. ICP
   remained <20.
   Neuro came to place EEG
   Liver recommended conituning Vit K, checking C.Diff, and stopping nac
   when INR <2 for one day without FFP.
   Started on hypertonic saline for fluids (plus the d20W) to try to keep
   osm up but no change in sodium or osm.
   As ICP was normal did not increase dose of mannitol for osm ~310.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tm37 Tc 37 Tmin33.9
   HR: 80s-90s
   BP 110/74 (108/68-143/96) currently on 0.09 of levophed
   O2sat 93% on AC 500/28/5/0.40
    CCP 68-78
   ICP 11-12 overnight
                  Total In:
                                                                      7989
                                                                      2041
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                   7847 mL
                                                                    1658mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   +35.6mL
                                                                    +383mL
   Respiratory support
   ABG: 7.42/32/165/19/-2
   Physical Examination
   GEN: Intubated. Sedated. HOB at 30degrees.
   HEENT: ICP probe in place.
   ABD: Incision without erythema or discharge.
   Extrem: Diffuse edema
   Labs / Radiology
   83 K/uL
   10.2 g/dL
   67 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.6 mEq/L
   23 mg/dL
   99 mEq/L
   138 mEq/L
   30.3 %
   31.9 K/uL
        [image002.jpg]
                             [**2197-8-26**]  04:46 PM
                             [**2197-8-26**]  05:00 PM
                             [**2197-8-26**]  08:07 PM
                             [**2197-8-26**]  08:12 PM
                             [**2197-8-26**]  10:50 PM
                             [**2197-8-26**]  11:06 PM
                             [**2197-8-27**]  02:05 AM
                             [**2197-8-27**]  02:19 AM
                             [**2197-8-27**]  04:43 AM
                             [**2197-8-27**]  05:02 AM
   WBC
   28.9
   30.0
   30.8
   31.4
   31.9
   Hct
   28.9
   29.3
   29.8
   28.8
   30.3
   Plt
   105
   97
   89
   84
   83
   Cr
   3.1
   3.0
   2.4
   2.9
   2.6
   TCO2
   21
   21
   21
   21
   21
   Glucose
   77
   68
   66
   70
   67
   67
   Other labs: PT / PTT / INR:19.2/32.1/1.8, CK / CKMB / Troponin-T:77//,
   ALT / AST:230/66, Alk Phos / T Bili:211/16.2, Amylase / Lipase:112/102,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Fibrinogen:307 mg/dL, Lactic Acid:6.1 mmol/L, Albumin:2.7 g/dL,
   LDH:331 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Cultures: Sputum with 4+ GNR
   CXR:  No change from prior. ETT in place.
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt. Found to be 38w
   pregnant and is s/p emergent Caesarian section.
   # Elevated ICP:
   Likely a sequella of liver damage, however time course is later than
   expected. Per OB/GYN, not likely to be due to pre-eclampsia, HELLP, or
   other post-partum syndrome.  Could be due to unrelated infectious
   (viral?) or other process, but this is unlikely. Started pentobarb coma
   on [**8-24**].  Relisted for liver on [**8-24**] and if liver becomes available pt
   would most likely go for transplant.  However, situation is complicated
   by both pentobarb coma as well as decreased body temp
 coagulopathy.
   Stopped the artic sun protocol and maintained ICPs <20 (~12).
   -               Neurology following- has continuous EEG monitor.  No
   bursts per neuron.
   -               OB/GYN following
   -               Continuous ICP monitoring via ICP monitor.
   -               Hyperventilate to goal pH of 7.45.
   -               Mannitol to 50g q6h prn osm< 325.
   -               Continue levophed to keep CPP above 70.
   -               Elevated HOB 30 degrees.
   -               Minimize stimulation of patient, but need to attempt to
   obtain sputum culture today to work up leukocytosis
   -               Will stop the pentobarb drip today and watch ICPs. If
   trend up will restart drip
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Therefore,
   appears as though liver is recovering well, however new asterixis flap
   on [**8-23**] in combination with elevated ICP raises suspicion for ongoing
   late effects of the liver failure.   Pt also continues to be
   hypoglycemic which is concerning for poor liver function.
   - Plan as above, for altered mental status.
   - Vitamin K
   -               Hepatology following.
   -               Transplant surgery following
   -               Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP
   drip, additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -               Consider d/c NAC today, pending hepatology agreement,
   given that AST and ALT are below 1000 and acetaminophen is
   undetectable.  Hepatology will leave recs to d/c nac when pt
s INR <2
   without FFP for 24h.
   # Respiratory failure: Intubated while in pentobarb coma.
   - Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -  Hyperventilate to keep pH at 7.45 PCO2 30.
   - HOB elevated 30 degrees
   # Leukocytosis: Differential shows bandemia. New GNR in sputum. ?PSA vs
   resistant klebsiella or actinobacter species since on vanc/zosyn and
   continues with increasing leukocytosis
   - ID consult today. ?should we broaden coverage to cover resistant GNRs
   - Will have pan-CT scan today to look for infection around ICP probe,
   Abdominal infection/megacolon, and lung pathology.
   - Continue to follow WBC.
   - Follow up c.diff toxins as well as urine/blood cultures
   -  Continue vanc, zosyn.  Added cipro, flagyl, and fluconazole
   - Check vanc trough level
    # Anion gap metabolic acidosis: Could be partially due to citrate
   given during dialysis.
   -          F/u labs ordered per hepatology.
   # ARF: Pt currently on ultrafiltration.
   -          Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage and
   failed gluconeogenesis.
   -               Continue q1h FSBG and repletion with D20W at 40mL/hour.
   Will increase rate to 60 since sugars are still not >70.
   -               Will change replacement fluid for CVVH to D5 to keep
   sugars up.
   # Abdominal distention: Abdominal distention slightly decreased today.
   Cause is still unclear, but likely some contribution from ileus and
   from small ascites..  Continue to monitor.
   -               Tried trophic feeds to decrease likelihood of bacterial
   translocation but failed b/c high residuals
   -               Concerned for C.Diff but has not stooled so can
t test.
   -               Treating empirically with flagyl
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion
   -          Follow q4h hcts.
   -          Transfusing for hct < 25.
   # Suicide attempt: psych and social work following.
   # s/p C-section: Pfannensteil incision C, D, I.  Infant in pt
   parents
 custody.
   # Lytes-
   -               Replete as necessary
   -               Only measure ionizied calcium in a critically ill pt
   #. Goals of care:
   Hct>25
   INR<2
   Platelet>75
   CPP>70
   ICP<20
   pH=7.45
   Osm 320-325
   ICU Care
   Nutrition: Started trophic feeds, however, this is not a reliable
   source of nutrition.  Started more for abd antibacterial protection.
   Unable to tolerate because high residuals.
   Glycemic Control:  consistently hypoglycemic.  D20W with increasing
   rate. Currently at 40. Likely needs 50mL/hr
   Lines:  RIJ placed [**2197-8-23**]
   Left A-line [**2197-8-23**]
   HD catheter
   Prophylaxis:
   DVT: pneumo boots
   Stress ulcer: PPI
   VAP:  HOB at 30degrees
   Comments:
   Communication:  Comments: parents
   Code status: full
   Disposition:MICU

2197-08-28 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   In the AM it was decided to lighten sedation and see how pt does. She
   was reduced to 0.5mg/kg/hr of pentobarb.
   Pt was then taken to CT while her CVVH filter was being changed. CT
   showed no acute process to explain her condition - final read pending.
   While at CT or on the way back it was noted that the R pupil was
   dilated. ICP rose to >20.
   Given elevated ICP and pupillary finding pt was restarted on
   1.0mg/kg/hr pentobarb and her ICP slowly normalized.
   Her ICP bold was adjusted by neurosurgery for concern that it was not
   functioning properly.
   Given her ongoign hypoglycemia her CVVH fluid was changed to have D5.
   She was also continued on a D20 drip. Her blood sugard were elevaved
   >400. The D20 drip was stopped. Her sugars remained in the 300s. Renal
   adjusted her CVVH fluid and then ultimately discontinued the D5. She
   was restarted on the D20 drip and titrated to blood glucose levels -
   around 60mL/hr
   Her K and Pi were difficult to manage. She was maxed out on replacement
   scales and still was hypokalemic and hypophosphatemic. Renal adjusted
   her CVVH and her electrolytes were easier to control.
   Around 1am it was noted that her L pupil was dilated and poorly
   responssive to light. The right pupil was smaller and responssive.
   Neuro, hepatology, and neurosurgery were called. Ultimately in
   discussions with Dr. [**Last Name (STitle) 356**] it was decided to try the Artic Sun protocol
   again with a goal core temp of 34. On this protocol her pupils
   normalized by around 5am, but not before the R pupil was noted to be
   dilated around 3am.
   Her INR has remained <2.0 for the past 24 hrs
   NAC was continued at a reduced dose of ?????
   ID was consulted and asked for repeat cultures and said that an LP may
   of utility of the Pt can tolerate
   Still no stool
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-28**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.53/31/144/23/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   100 K/uL
   9.3 g/dL
   89 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.0 mEq/L
   21 mg/dL
   93 mEq/L
   139 mEq/L
   27.2 %
   25.2 K/uL
        [image002.jpg]
                             [**2197-8-27**]  05:01 PM
                             [**2197-8-27**]  05:11 PM
                             [**2197-8-27**]  07:55 PM
                             [**2197-8-27**]  08:07 PM
                             [**2197-8-27**]  09:41 PM
                             [**2197-8-27**]  10:02 PM
                             [**2197-8-28**]  12:42 AM
                             [**2197-8-28**]  12:52 AM
                             [**2197-8-28**]  03:17 AM
                             [**2197-8-28**]  03:30 AM
   WBC
   22.4
   21.4
   20.9
   22.4
   25.2
   Hct
   27.4
   25.3
   26.9
   27.7
   27.2
   Plt
   64
   124
   118
   103
   100
   Cr
   2.9
   2.4
   2.4
   2.4
   2.2
   TCO2
   27
   28
   27
   26
   27
   Glucose
   481
   416
   358
   308
   175
   89
   Other labs: PT / PTT / INR:18.2/31.5/1.7, CK / CKMB / Troponin-T:77//,
   ALT / AST:150/43, Alk Phos / T Bili:198/16.3, Amylase / Lipase:112/102,
   Differential-Neuts:83.0 %, Band:4.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:2.0
   %, Fibrinogen:333 mg/dL, Lactic Acid:9.2 mmol/L, Albumin:2.5 g/dL,
   LDH:259 IU/L, Ca++:10.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt. Found to be 38w
   pregnant and is s/p emergent Caesarian section.
   # Elevated ICP:
   Likely a sequella of liver damage, however time course is later than
   expected. Per OB/GYN, not likely to be due to pre-eclampsia, HELLP, or
   other post-partum syndrome.  Could be due to unrelated infectious
   (viral?) or other process, but this is unlikely. Started pentobarb coma
   on [**8-24**].  Relisted for liver on [**8-24**] and if liver becomes available pt
   would most likely go for transplant.  However, situation is complicated
   by both pentobarb coma as well as decreased body temp
 coagulopathy.
   Stopped the artic sun protocol and maintained ICPs <20 (~12).
   -               Neurology following- has continuous EEG monitor.  No
   bursts per neuron.
   -               OB/GYN following
   -               Continuous ICP monitoring via ICP monitor.
   -               Hyperventilate to goal pCO2 of 30.
   -               Mannitol to 50g q6h prn osm< 325.
   -               Continue levophed to keep CPP above 70.
   -               Elevated HOB 30 degrees.
   -               Minimize stimulation of patient, but need to attempt to
   obtain sputum culture today to work up leukocytosis
   -               Will continue pentobarb drip
   -               Will continue Artic Sun protocol to goal temp of 34 for
   now
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Therefore,
   appears as though liver is recovering well, however new asterixis flap
   on [**8-23**] in combination with elevated ICP raises suspicion for ongoing
   late effects of the liver failure.   Pt also continues to be
   hypoglycemic which is concerning for poor liver function.
   - Plan as above, for altered mental status.
   - Vitamin K
   -               Hepatology following.
   -               Transplant surgery following
   -               Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP
   drip, additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -               Consider d/c NAC today, pending hepatology agreement,
   given that AST and ALT are below 1000 and acetaminophen is
   undetectable.  Hepatology will leave recs to d/c nac when pt
s INR <2
   without FFP for 24h.
   # Respiratory failure: Intubated while in pentobarb coma.
   - Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -  Hyperventilate to keep pCO2 = 30.
   - HOB elevated 30 degrees
   # Leukocytosis: Differential shows bandemia. New GNR in sputum. ?PSA vs
   resistant klebsiella or actinobacter species since on vanc/zosyn and
   continues with increasing leukocytosis
   - ID consult today. ?should we broaden coverage to cover resistant GNRs
   - Will have pan-CT scan today to look for infection around ICP probe,
   Abdominal infection/megacolon, and lung pathology.
   - Continue to follow WBC.
   - Follow up c.diff toxins as well as urine/blood cultures
   -  Continue vanc, zosyn, cipro, flagyl, and fluconazole
   - Check vanc trough level
    - ID consulting and input appreciated. Recommend repeat cultures and
   possible LP
   # Anion gap metabolic acidosis: Could be partially due to citrate given
   during dialysis.
   -          F/u labs ordered per hepatology.
   # ARF: Pt currently on ultrafiltration.
   -          Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   -          Continue to follow Cr.
   -          Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage and
   failed gluconeogenesis.
   -               Continue q1h FSBG and repletion with D20W titrated to
   appropriate glucose level
   # Abdominal distention: Abdominal distention slightly decreased today.
   Cause is still unclear, but likely some contribution from ileus and
   from small ascites..  Continue to monitor.
   -               Tried trophic feeds to decrease likelihood of bacterial
   translocation but failed b/c high residuals
   -               Concerned for C.Diff but has not stooled so can
t test.
   -               Treating empirically with flagyl
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion
   -          Follow q4h hcts.
   -          Transfusing for hct < 25.
   # Suicide attempt: psych and social work following.
   # s/p C-section: Pfannensteil incision C, D, I.  Infant in pt
   parents
 custody.
   # Lytes-
   -               Replete as necessary
   -               Only measure ionizied calcium in a critically ill pt
   #. Goals of care:
   Hct>25
   INR<2
   Platelet>75
   CPP>70
   ICP<20
   pCO2 = 30
   Osm 320-325
   Core body temp = 34
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-08-29 07:16:00 Physician Resident Progress Note
24 Hour Events:
   - Required 1 un platelets, no FFP, no pRBCs
   - Required additional mannitol doses as osm consistently <320
   - Continued in pentobarb coma and artic sun protocol
   - Pupils approx 2mm at 4 am exam.  At some point, right pupil started
   to dilate to approx 5mm.  Now, with anisacoria
   - final read on [**8-27**] CT still pending, suggestive of hemoperitoneum and
   pelvic hematoma
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Flagyl
   VancZosyn
   Fluc
   Cipro
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-29**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   T 34
   HR 77
   BP 106/68
   RR 26
   SaO2 98%
    CVP 10
   ICP 7 ([**6-5**])
   CPP 71 (70-78)
   Total In:
   9.9L
   2.7
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
   9.4
   2.5
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   CMV
   FiO2 40%, Vt 500, Peep 5
   ABG: 7.38/32/161/19/-4
   Physical Examination
   Gen: intubated, cooling pads on, ICP bolt in place, EEG leads on scalp
   Skin: icteric
   Eyes: Left pupil 2-3 mm, not reactive to light.  Right pupil 4-5 mm,
   not reactive to light.  Sclerael icterus.
   Chest: coarse bs
   Abd: soft, distended
   Ext: pedal edema
   Labs / Radiology
   90 K/uL
   9.7 g/dL
   97 mg/dL
   1.8 mg/dL
   19 mEq/L
   4.6 mEq/L
   20 mg/dL
   101 mEq/L
   136 mEq/L
   29.2 %
   24.8 K/uL
        [image002.jpg]
                             [**2197-8-28**]  03:25 PM
                             [**2197-8-28**]  05:50 PM
                             [**2197-8-28**]  06:05 PM
                             [**2197-8-28**]  09:00 PM
                             [**2197-8-28**]  09:06 PM
                             [**2197-8-29**]  12:10 AM
                             [**2197-8-29**]  12:27 AM
                             [**2197-8-29**]  03:05 AM
                             [**2197-8-29**]  03:31 AM
                             [**2197-8-29**]  06:25 AM
   WBC
   23.1
   22.2
   24.0
   24.8
   Hct
   27.9
   27.4
   29.3
   29.2
   Plt
   110
   101
   92
   90
   Cr
   2.2
   1.8
   1.8
   1.8
   TCO2
   16
   22
   22
   21
   21
   20
   Glucose
   88
   83
   95
   109
   105
   97
   Other labs: PT / PTT / INR:18.9/36.4/1.7, CK / CKMB / Troponin-T:77//,
   ALT / AST:128/37, Alk Phos / T Bili:199/17.5, Amylase / Lipase:112/102,
   Lactic Acid:6.0 mmol/L, Albumin:2.5 g/dL, LDH:233 IU/L, Ca++:10.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   FS- low 100s
   Fibrinogen: 461, up from 367
   Serum osm: 3am 319, 1am 313
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt.  AT OSH, was found
   to be 38w pregnant and underwent emergent Caesarian section.
   # Elevated ICP:
   Likely a sequela of liver damage, however time course is later than
   expected. Per OB/GYN, not likely to be due to pre-eclampsia, HELLP, or
   other post-partum syndrome.  Could be due to unrelated
   infectious(viral?) or other process, but this is unlikely. Relisted for
   liver on [**8-24**] and if liver becomes available pt would most likely go
   for transplant.
   - Aniscoria.  Right pupil has dilated again.  Needs head CT (must
   remove EEG leads).  Will paralyze pt prior to scan.  Also, will give
   extra dose of mannitol.
   - Pentobarb coma:  Started on [**8-24**] and attempted to lighten sedation on
   [**8-27**].  However, pt's ICP re-elev and pupils subsequently dilated.
   Restarted pentobarb coma on [**8-27**].  Currently at 1mg/kg/hr.
   - Arctic sun protocol- Had been discontinued but was restarted on
   8/31when right then left pupil then right again became dilated.  Goal
   temp of 34.
   - Neurology following- has continuous EEG monitor.  No bursts per
   neuro.
   - OB/GYN consulted- do not believe current symptoms to be a sequelae of
   pregnancy
   - Continuous ICP monitoring via ICP monitor with ICP now [**7-6**]
   - Hyperventilate to goal pCO2 of 30.
   - Mannitol to 50mg q6h prn to osm 320 to 325.  Sporadically, osm < 315,
   and will infuse an additional 25g of mannitol
   - Continue levophed to keep CPP above 70.
   - Elevated HOB 30 degrees.
   - Minimize stimulation of patient
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Was thought
   that liver was improving, however, she then developed elevated ICP as
   well as hypoglycemia, both concerning for worsening liver function. INR
   continues to be elevated.   She is currently re-listed for transplant.
   - Plan as above, for altered mental status.
   - Vitamin K
   - Hepatology following.
   - Transplant surgery following
   - Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP drip,
   additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -  Continue NAC, pending hepatology agreement, given that AST and ALT
   are below 1000 and acetaminophen is undetectable.  NAC was reduced to
   602mg/hr.
   # Respiratory failure: Intubated while in pentobarb coma.
   - Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -  Hyperventilate to keep pCO2 = 30.
   # Leukocytosis w/ bandemia: New GNR in sputum. ?PSA vs resistant
   klebsiella or actinobacter species since on vanc/zosyn and continues
   with increasing leukocytosis
   - ID consult recommend cultures plus LP and para if feasible.  However,
   pt is too unstable for an LP.  Continuing to hold on paracentesis for
   now.
   - PanCT yesterday non-informative
   - Continue to follow WBC.
   - Follow up c.diff toxins if stooling
   - Re-[**Last Name (un) 415**] urine cultures on [**8-28**]
   - Continue vanc, zosyn, cipro, flagyl, and fluconazole
   - [**8-28**] vanc trough was 16.7
   # ARF: Pt currently on ultrafiltration.
   - CVVH filter required changing on [**8-27**].  At that time, it was decided
   to take the pt to CT scanner (read still pending).  While at CT, her
   pupils dilated and ICP rose.
   - Given her continued hypoglycemia, her CVVH fluid was changed to D5
   but was then discontinued when her sugars were elevated.
   - Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   - Continue to follow Cr
   - Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage and
   failed gluconeogenesis.
   - CVH fluid is D5.  Pt continued to get a D20 drip and her blood sugars
   were elevated at >400.  The D20 was stopped but her sugars remained
   high.  Renal again adjusted her CVVH fluid, discontinuing the D5.
   Restarted the D20 drip and her sugars have leveled out.  Currently
   running at approx 60ml/hr.
   - Continue q1h FSBG and repletion with D20W titrated to appropriate
   glucose level
   # Abdominal distention:  Cause is still unclear, but likely some
   contribution from ileus and from small ascites. Continue to monitor.
   - Follow up final CT read
   - Bedside ultrasound on [**8-28**] showed continued small amount of ascites.
   - Tried trophic feeds to decrease likelihood of bacterial translocation
   but failed b/c high residuals
   - Concerned for C.Diff but has not stooled so can't test for toxin
   - Treating empirically with flagyl
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion
   - Follow q4h hcts.
   - transfusing for hct < 25.
   - Most likely anemia of inflammation
   # FEN: Currently holding on TPN, as this would increase her risk for
   infection.
   # Suicide attempt: psych and social work following.
   # s/p C-section: Pfannensteil incision C, D, I.  Infant in pt's
   parents' custody.
   #. Goals of care:
   Hct>25
   INR<2
   Platelet>75
   CPP>70
   ICP<20
   pCO2 = 30
   Osm 320-325
   Core body temp = 34
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2197-08-30 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Discussion over weaning pentobarbitol per neuro recs, but decideded to
   continue in d/w Dr. [**Last Name (STitle) 356**].
   OB evaluated -> some concern for infected hematoma
   ID recs -> stop cipro, tap belly
   I- head CT->normal to improved
   MRI -> no evidence of stroke
   Liver became available.  To OR overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-8-30**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: 7.16/34/409/17/-15
   PaO2 / FiO2: 1,023
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.2 g/dL
   152 mg/dL
   1.8 mg/dL
   17 mEq/L
   5.0 mEq/L
   24 mg/dL
   107 mEq/L
   142 mEq/L
   25
   27.1 K/uL
        [image002.jpg]
                             [**2197-8-29**]  09:47 PM
                             [**2197-8-29**]  10:01 PM
                             [**2197-8-30**]  02:24 AM
                             [**2197-8-30**]  02:25 AM
                             [**2197-8-30**]  03:38 AM
                             [**2197-8-30**]  03:43 AM
                             [**2197-8-30**]  04:25 AM
                             [**2197-8-30**]  05:30 AM
                             [**2197-8-30**]  05:40 AM
                             [**2197-8-30**]  06:07 AM
   WBC
   27.1
   Hct
   27.9
   25
   32
   13
   26
   25
   Plt
   103
   68
   105
   45
   77
   Cr
   1.8
   TCO2
   18
   18
   17
   17
   17
   13
   Glucose
   85
   57
   152
   243
   165
   152
   Other labs: PT / PTT / INR:15.9/52.0/1.4, CK / CKMB / Troponin-T:77//,
   ALT / AST:117/37, Alk Phos / T Bili:194/18.2, Amylase / Lipase:57/54,
   Differential-Neuts:87.4 %, Band:0.0 %, Lymph:8.5 %, Mono:3.3 %, Eos:0.3
   %, Fibrinogen:215 mg/dL, Lactic Acid:9.7 mmol/L, Albumin:2.4 g/dL,
   LDH:228 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   22 year old woman with admitted with fulminant hepatic failure
   following acetaminophen overdose as suicide attempt.  AT OSH, was found
   to be 38w pregnant and underwent emergent Caesarian section.
   # Elevated ICP:
   Likely a sequela of liver damage, however time course is later than
   expected. Per OB/GYN, not likely to be due to pre-eclampsia, HELLP, or
   other post-partum syndrome.  Could be due to unrelated
   infectious(viral?) or other process, but this is unlikely. Relisted for
   liver on [**8-24**] and if liver becomes available pt would most likely go
   for transplant.
   - Aniscoria.  Right pupil has dilated again.  Needs head CT (must
   remove EEG leads).  Will paralyze pt prior to scan.  Also, will give
   extra dose of mannitol.
   - Pentobarb coma:  Started on [**8-24**] and attempted to lighten sedation on
   [**8-27**].  However, pt's ICP re-elev and pupils subsequently dilated.
   Restarted pentobarb coma on [**8-27**].  Currently at 1mg/kg/hr.
   - Arctic sun protocol- Had been discontinued but was restarted on
   8/31when right then left pupil then right again became dilated.  Goal
   temp of 34.
   - Neurology following- has continuous EEG monitor.  No bursts per
   neuro.
   - OB/GYN consulted- do not believe current symptoms to be a sequelae of
   pregnancy
   - Continuous ICP monitoring via ICP monitor with ICP now [**7-6**]
   - Hyperventilate to goal pCO2 of 30.
   - Mannitol to 50mg q6h prn to osm 320 to 325.  Sporadically, osm < 315,
   and will infuse an additional 25g of mannitol
   - Continue levophed to keep CPP above 70.
   - Elevated HOB 30 degrees.
   - Minimize stimulation of patient
   # Hepatic failure: LFTs peaked at ALT = 8370 and AST = [**Numeric Identifier 373**] at 3am on
   [**8-21**] and INR = 8.1 at 9:22pm on [**8-20**]. Liver enzymes have been trending
   downward since then. Acetaminophen level now undetectable. Was thought
   that liver was improving, however, she then developed elevated ICP as
   well as hypoglycemia, both concerning for worsening liver function. INR
   continues to be elevated.   She is currently re-listed for transplant.
   - Plan as above, for altered mental status.
   - Vitamin K
   - Hepatology following.
   - Transplant surgery following
   - Check INR, PT, PTT, electrolyes, CBC q3hours. Use FFP drip,
   additional platelets, and additional cryoprecipitate to keep INR,
   platelets and fibrinogen above goals.
   -  Continue NAC, pending hepatology agreement, given that AST and ALT
   are below 1000 and acetaminophen is undetectable.  NAC was reduced to
   602mg/hr.
   # Respiratory failure: Intubated while in pentobarb coma.
   - Keep pt intubated until mental status clears.
   - Continue albuterol nebs and periodic suctioning.
   -  Hyperventilate to keep pCO2 = 30.
   # Leukocytosis w/ bandemia: New GNR in sputum. ?PSA vs resistant
   klebsiella or actinobacter species since on vanc/zosyn and continues
   with increasing leukocytosis
   - ID consult recommend cultures plus LP and para if feasible.  However,
   pt is too unstable for an LP.  Continuing to hold on paracentesis for
   now.
   - PanCT yesterday non-informative
   - Continue to follow WBC.
   - Follow up c.diff toxins if stooling
   - Re-[**Last Name (un) 415**] urine cultures on [**8-28**]
   - Continue vanc, zosyn, cipro, flagyl, and fluconazole
   - [**8-28**] vanc trough was 16.7
   # ARF: Pt currently on ultrafiltration.
   - CVVH filter required changing on [**8-27**].  At that time, it was decided
   to take the pt to CT scanner (read still pending).  While at CT, her
   pupils dilated and ICP rose.
   - Given her continued hypoglycemia, her CVVH fluid was changed to D5
   but was then discontinued when her sugars were elevated.
   - Renal following closely.
   - Goal of net fluid balance -50cc/hr.
   - Continue to follow Cr
   - Continue to follow UOP.
   # Hypoglycemia: Likely a sequelae of tylenol-induced hepatic damage and
   failed gluconeogenesis.
   - CVH fluid is D5.  Pt continued to get a D20 drip and her blood sugars
   were elevated at >400.  The D20 was stopped but her sugars remained
   high.  Renal again adjusted her CVVH fluid, discontinuing the D5.
   Restarted the D20 drip and her sugars have leveled out.  Currently
   running at approx 60ml/hr.
   - Continue q1h FSBG and repletion with D20W titrated to appropriate
   glucose level
   # Abdominal distention:  Cause is still unclear, but likely some
   contribution from ileus and from small ascites. Continue to monitor.
   - Follow up final CT read
   - Bedside ultrasound on [**8-28**] showed continued small amount of ascites.
   - Tried trophic feeds to decrease likelihood of bacterial translocation
   but failed b/c high residuals
   - Concerned for C.Diff but has not stooled so can't test for toxin
   - Treating empirically with flagyl
   # Anemia: No evidence for hemolysis based on smear, per hematology.
   However, pt has continued to have less than expected hct response
   following transfusion
   - Follow q4h hcts.
   - transfusing for hct < 25.
   - Most likely anemia of inflammation
   # FEN: Currently holding on TPN, as this would increase her risk for
   infection.
   # Suicide attempt: psych and social work following.
   # s/p C-section: Pfannensteil incision C, D, I.  Infant in pt's
   parents' custody.
   #. Goals of care:
   Hct>25
   INR<2
   Platelet>75
   CPP>70
   ICP<20
   pCO2 = 30
   Osm 320-325
   Core body temp = 34
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: